2174-09-07 15:37:00 Physician Resident Progress Note
Chief Complaint: Pt [**Name (NI) 3994**] pain at this time. Is able to speak with
   trach but feeling intermittantly SOB
   24 Hour Events:
 PICC LINE - START [**2174-9-6**] 12:20 PM
 INVASIVE VENTILATION - START [**2174-9-7**] 02:00 AM
 BLOOD CULTURED - At [**2174-9-7**] 06:46 AM
 FEVER - 102.8
F - [**2174-9-6**] 05:00 PM - WBC also rising, sent blood
   and urine cult. Getting WBC scan [**Date range (1) 3995**]
   - Tachy 120 to 160s overngiht, responsive to 5mg IV lopressor and 2mg
   haldol. Also had deep suctioning
   -PEG site oozing overnight, d/c heparin
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2174-9-7**] 02:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2174-9-6**] 05:30 PM
   Haloperidol (Haldol) - [**2174-9-7**] 01:30 AM
   Metoprolol - [**2174-9-7**] 11:00 AM
   Furosemide (Lasix) - [**2174-9-7**] 02:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain, Palpitations
   Nutritional Support: Tube feeds
   Respiratory: Dyspnea
   Endocrine: Hyperglycemia
   Heme / Lymph: Coagulopathy
   Psychiatric / Sleep: Agitated, Delirious
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2174-9-7**] 03:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.8
C (100.1
   HR: 104 (93 - 145) bpm
   BP: 107/72(78) {91/57(67) - 129/95(117)} mmHg
   RR: 26 (9 - 44) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 157.2 kg (admission): 164 kg
   Height: 70 Inch
             Total In:
                                                                  1,028 mL
                                                                    881 mL
   PO:
             TF:
   IVF:
                                                                    516 mL
                                                                    791 mL
   Blood products:
   Total out:
                                                                  5,575 mL
                                                                  1,957 mL
   Urine:
                                                                  5,575 mL
                                                                  1,957 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,547 mL
                                                                 -1,076 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 691 (501 - 812) mL
   PS : 15 cmH2O
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 86
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: ///35/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Trach in place
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, irreg irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorlly)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender: , PEG
   site oozing blood though dressing
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   330 K/uL
   12.5 g/dL
   165 mg/dL
   1.2 mg/dL
   35 mEq/L
   2.9 mEq/L
   63 mg/dL
   100 mEq/L
   145 mEq/L
   38.1 %
   17.3 K/uL
        [image002.jpg]
                             [**2174-9-3**]  07:19 PM
                             [**2174-9-4**]  02:52 AM
                             [**2174-9-4**]  08:44 AM
                             [**2174-9-5**]  12:30 AM
                             [**2174-9-5**]  08:27 PM
                             [**2174-9-5**]  10:30 PM
                             [**2174-9-6**]  03:00 AM
                             [**2174-9-6**]  03:15 PM
                             [**2174-9-6**]  05:41 PM
                             [**2174-9-7**]  06:27 AM
   WBC
   12.7
   11.4
   11.2
   12.9
   14.4
   17.3
   Hct
   36.1
   37.6
   35.0
   37.1
   38.0
   38.1
   Plt
   [**Telephone/Fax (2) 3996**]
   Cr
   1.2
   1.2
   1.3
   1.3
   1.3
   1.3
   1.2
   TCO2
   42
   Glucose
   176
   176
   165
   134
   138
   144
   165
   Other labs: PT / PTT / INR:28.3/33.6/2.9, CK / CKMB /
   Troponin-T:922/3/0.13, ALT / AST:67/43, Alk Phos / T Bili:152/1.9,
   Amylase / Lipase:113/133, Differential-Neuts:85.1 %, Band:0.0 %,
   Lymph:9.6 %, Mono:4.5 %, Eos:0.4 %, Fibrinogen:932 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:3.8 g/dL, LDH:293 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Imaging: [**9-6**] CXR - PICC in place, without vasc congestion or PNA
   Microbiology: Blood 8/1 and [**9-6**] pending
   Urine [**9-2**] NG
   C diff [**9-1**] neg
   Blood 7/26 NG
   [**8-25**] BAL, viral positive HSV1
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   downtrending BUN/Cr, etiology of ARF likely pre-renal given EF 10%
   - FeNa 0.13%, then 0.14%, supporting pre-renal etiology
   - Continue to monitor BUN/Cr
   - On IV lasix  I/O goal net negative 1.1.5 L given severe CHF
   - follow lytes
   - s/p Diamox x2 doses for met alkalosis
   - continue aggressive KCL
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Pts failure likely multifactorial.  From an infectious standpoint,
   multi-lobar pneumonia is contributing.  Bronchoscopy with BAL done [**8-25**]
   by pulmonary for quantitative cultures. Iinitial cytology shows HSV
   inclusions; HSV cult positive. CHF also likely playing role in resp
   failure given EF 10%.
   - had trach and PEG tube on [**9-5**]
   - lasix drip stoped and metalazone stopped. Got Diamox x 2 doses.
   Switched to Lasix IV 40 TID  with goal I/O of [**2-1**].5 L - Continue
   atrovent nebs prn
   - continue acyclovir for 14 days
   - adjustments to trach tape/straps only to be made by [**Doctor First Name 458**]
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
   Pt with severe cardiomyopathy and EF of only 10%. Unlikely that
   cardiomyopathy is not partially due to ischemia as OSH states.
   -Continue Digoxin
   -Lopressor
   -pt believed to be fluid overloaded, continue lasix IV
   -Cr stable at 1.2
   -iCaptopril to 25 TID to improve afterload
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   Continued fever today , WBC uptrending again., sputum cultures + [**8-18**]
   for pan-sensitive proteus, urine legionella Ag neg, sputum legionella
   cx neg to date, CT/CXR with b/l lower lobe consolidations. RIJ cath tip
   neg. Ucx to date neg. Tib/Fib film no evidence of osteomyelitis. TEE
   w/o evidence of endocarditis. Initial cytology from BAL showing HSV
   inclusions.  Now postive HSV1 viral culture. Renal, RUQ US neg.  CT
   sinus showed air-fluid levels c/w intubation, but cannot r/o infection.
   Source of fever unclear
   - cultures remain neg
   - BAL showed HSV inclusions, postive HSV1 culture
   - Continue Acyclovir 1000mg IV q8 for 14 days total
   - CMV viral load, no DNA detected
   - d/ced cefepime, levofloxacin, flagyl [**8-29**] since recent sputum,
   urine,  cult NG. Completed course for [**8-18**] proteus
   - Monitor daily LFTs given elevated amylase/lipase for concern of
   acalculous cholecystitis in setting of new fever. LFTs slowly
   decreasing, RUQ US negative for acute cholecystitis.
   - HIV consent when patient extubated and consentable
   - ID following.
   - Pt WBC collected today for WBC scan [**9-8**]
   - Plan to CT abd after WBC scan if neg and  if WBC increases and
   continues to be febrile
 DELIRIUM / CONFUSION
   Pt pulled out IJ, is pulling at trach.  Restrained in 2 point.  Haldol
   [**Hospital1 **] and try to decrease fentanyl/midaz. Keep Haldol on for now
 ATRIAL FIBRILLATION (AFIB)
   tachycardia increasing today, presented with AFib with RVR
   - increased beta blocker for rate control  to Metoprolol 37.5 mg
   - If rates become uncontroled in > 140s will increase dig dosage
   tomorrow
   COAGULOPATHY - possible sources since the last coumadin was given on
   [**8-24**] include hepatic and nutritional.  Hepatic possible given poor CO
   and episodic hypotension, however would expect higher LFTs if cause was
   ischemia. Of note LFT are elevated. Nutrition possible since no Vit K
   in tube feeds but near normal alb. a source could be levaquin, as this
   effects coumadin metabolism. DIC unlikely since platlets are rising.
   - heparin gtt d/c [**3-5**] PEG oozing.
   - replete VIt K at this time since PEG oozing, 2.5mg  VIT K
   PEG
 oozing today, d/c anticoagulation. [**Doctor First Name **] resident to see, follow
   recs
   ICU Care
   Nutrition:
   Comments: Stoping TF, passed S+S eval, started on necture, soft solids
   and may advance as tolerated.
   Glycemic Control:  Regular insulin sliding scale, Comments: NPH
   standing
   Lines:
   PICC Line - [**2174-9-6**] 12:20 PM
   18 Gauge - [**2174-9-6**] 12:55 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2174-09-08 05:49:00 Physician Resident Progress Note
Chief Complaint: Pt denies pain. Denies SOB.  As per nursing no longer
   agitated
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2174-9-7**] 09:00 AM
 INVASIVE VENTILATION - START [**2174-9-7**] 02:00 PM
 FEVER - 102.8
F - [**2174-9-7**] 04:00 PM
 10 beat run of NSVT
 Required 250cc bolus X2 for BP and decreased UO, BP still borderline,
   went down on lopressor to 25qid
   - increased captopril to 37.5mg TID overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2174-9-7**] 10:10 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2174-9-7**] 08:00 AM
   Metoprolol - [**2174-9-7**] 11:00 AM
   Furosemide (Lasix) - [**2174-9-7**] 02:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-9-8**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 38.1
C (100.5
   HR: 93 (88 - 140) bpm
   BP: 92/54(62) {83/48(57) - 118/90(93)} mmHg
   RR: 13 (9 - 44) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 157.2 kg (admission): 164 kg
   Height: 70 Inch
             Total In:
                                                                  1,966 mL
                                                                    480 mL
   PO:
             TF:
                                                                     25 mL
                                                                    162 mL
   IVF:
                                                                  1,676 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  2,472 mL
                                                                    335 mL
   Urine:
                                                                  2,472 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -506 mL
                                                                    145 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 792 (566 - 837) mL
   PS : 15 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: ///31/
   Ve: 15.5 L/min
   Physical Examination
   Gen: lying in bed NAD
   HEENT: moist membranes, trach and sutures in place
   CV: irreg irreg rythem, no m/r/g
   Lungs: coarse BS bilaterally
   Abd: obese, PEG tube without oozing and clean dressing, ND / NT +BS
   Ext: no edema, warm to touch
   Neuron: alert
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   346 K/uL
   12.3 g/dL
   211 mg/dL
   1.5 mg/dL
   31 mEq/L
   3.7 mEq/L
   84 mg/dL
   99 mEq/L
   145 mEq/L
   36.2 %
   15.6 K/uL
        [image002.jpg]
   Micro:
   [**9-2**], [**9-6**], [**9-7**] Blood pending
   [**9-2**] sputum rejected
   [**9-2**] Urine NG
   [**9-1**] cdiff neg
   [**8-27**] Blood NG
   [**8-25**] BAL viral positive HSV1
   Rads:
   [**9-8**] CXR: PICC in place, no pulm edema
   [**9-8**] WBC scan: pending
                             [**2174-9-4**]  08:44 AM
                             [**2174-9-5**]  12:30 AM
                             [**2174-9-5**]  08:27 PM
                             [**2174-9-5**]  10:30 PM
                             [**2174-9-6**]  03:00 AM
                             [**2174-9-6**]  03:15 PM
                             [**2174-9-6**]  05:41 PM
                             [**2174-9-7**]  06:27 AM
                             [**2174-9-7**]  02:43 PM
                             [**2174-9-8**]  04:02 AM
   WBC
   11.4
   11.2
   12.9
   14.4
   17.3
   15.6
   Hct
   37.6
   35.0
   37.1
   38.0
   38.1
   36.2
   Plt
   [**Telephone/Fax (3) 4008**]
   Cr
   1.3
   1.3
   1.3
   1.3
   1.2
   1.5
   1.5
   TCO2
   42
   Glucose
   165
   134
   138
   144
   165
   253
   211
   Other labs: PT / PTT / INR:17.4/28.7/1.6, CK / CKMB /
   Troponin-T:922/3/0.13, ALT / AST:67/43, Alk Phos / T Bili:152/1.9,
   Amylase / Lipase:113/133, Differential-Neuts:85.1 %, Band:0.0 %,
   Lymph:9.6 %, Mono:4.5 %, Eos:0.4 %, Fibrinogen:932 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:3.8 g/dL, LDH:293 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.7 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   downtrending BUN/Cr, etiology of ARF likely pre-renal given EF 10%
   - Continue to monitor BUN/Cr
   - On IV lasix  yesterday .5L neg. BUN rising, increased tachycardia and
   hypotension, appears pt becoming euvolemic.
   - follow lytes this afternoon
   -changed lasix to 40 IV BID for maintance dose, goal I/O even, if
   negative will hold evening dose
   - s/p Diamox x2 doses for met alkalosis on [**9-7**]
   - continue aggressive KCL
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Pts failure likely multifactorial.  From an infectious standpoint,
   multi-lobar pneumonia is contributing.  Bronchoscopy with BAL done [**8-25**]
   by pulmonary for quantitative cultures. Iinitial cytology shows HSV
   inclusions; HSV cult positive. CHF also likely playing role in resp
   failure given EF 10%.
   - had trach and PEG tube on [**9-5**]
   - Continue atrovent nebs prn
   - continue acyclovir, today is 14/14 in treatment will d/c
   -No sign of pulm edema on recent CXR
   - adjustments to trach tape/straps only to be made by [**Doctor First Name 458**]
   -wean vent senting as tolerated
   -nursing reports increased pulm secretions overnight, sputum cult sent
   -will get ABG today to f/u met alkalosis
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
   Pt with severe cardiomyopathy and EF of only 10%. Unlikely that
   cardiomyopathy is not partially due to ischemia as OSH states.
   -Continue Digoxin at current dose
   -Lopressor was decreased from 37.5mg QID to 25mg QID  and Captopril for
   increased to 37.5mg TID overnight, however pt hypotensive, therefore
   captopril decreased back to 25mg TID, and lopressor increased back to
   37.5mg QID for rate control of afib. Will aggressively increase BB as
   needed
   -pt euvolemic, decreased lasix IV to 40 [**Hospital1 **] with goal I/O even
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   Continued fever today , WBC uptrending again., sputum cultures + [**8-18**]
   for pan-sensitive proteus, urine legionella Ag neg, sputum legionella
   cx neg to date, CT/CXR with b/l lower lobe consolidations. RIJ cath tip
   neg. Ucx to date neg. Tib/Fib film no evidence of osteomyelitis. TEE
   w/o evidence of endocarditis. Initial cytology from BAL showing HSV
   inclusions.  Now postive HSV1 viral culture. Renal, RUQ US neg.  CT
   sinus showed air-fluid levels c/w intubation, but cannot r/o infection.
   Source of fever unclear
   - cultures remain neg
   - BAL showed HSV inclusions, postive HSV1 culture
   - Continue Acyclovir 1000mg IV q8 for 14 days total
   - CMV viral load, no DNA detected
   - d/ced cefepime, levofloxacin, flagyl [**8-29**] since recent sputum,
   urine,  cult NG. Completed course for [**8-18**] proteus
   - Monitor daily LFTs given elevated amylase/lipase for concern of
   acalculous cholecystitis in setting of new fever. LFTs slowly
   decreasing, RUQ US negative for acute cholecystitis.
   - HIV consent now that pt extubated and consentable
   - ID following.
   - f/u WBC scan results, pt became tachycardic and increased RR while
   lying flat for scan and study was cut short will repeat chest and arm
   portion tomorrow.
   - Plan to CT abd after WBC scan if neg and  if WBC increases and
   continues to be febrile
 DELIRIUM / CONFUSION
   Pt pulled out IJ, is pulling at trach. Now less agitated  Haldol
   switched to zyprexa 5mg TID.
   - EKG for prolonged [**Month/Year (2) **] daily
 ATRIAL FIBRILLATION (AFIB)
   tachycardia increasing today, presented with AFib with RVR
   - increased beta blocker for rate control  to Metoprolol 37.5 mg, will
   aggressively uptitrate to 50mg QID if necessary
   - If rates become uncontroled in > 140s will increase dig dosage
   tomorrow
   -episode of 10 beats of wide complex tachycardia overnight, likely A
   fib with abberancy as upon admission
   -aggressively repleat KCL
   - will contact EP if continues
   -daily [**Name (NI) **] on EKG while on psych meds.
   COAGULOPATHY - possible sources since the last coumadin was given on
   [**8-24**] include hepatic and nutritional.  Hepatic possible given poor CO
   and episodic hypotension, however would expect higher LFTs if cause was
   ischemia. Of note LFT are elevated. Nutrition possible since no Vit K
   in tube feeds but near normal alb. a source could be levaquin, as this
   effects coumadin metabolism. DIC unlikely since platlets are rising.
   - heparin gtt d/c [**3-5**] PEG oozing.
   - INR  2.9 to 1.6 today after one dose of Vit K, will keep at this
   level since no longer oozing at PEG site with plan of restarting
   coumadin in future for afib
   PEG
 oozing today, d/c anticoagulation. [**Doctor First Name **] resident said OK, no
   longer oozing
   ICU Care
   Nutrition:
   Comments: Stoping TF, passed S+S eval, started on necture, soft solids
   and may advance as tolerated.  Had some difficulty with meal last
   evening.
   Glycemic Control:  Regular insulin sliding scale, Comments: NPH
   standing
   Lines:
   PICC Line - [**2174-9-6**] 12:20 PM
   18 Gauge - [**2174-9-6**] 12:55 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Critical Care
   Present for the key portions of history and physical as above. Agree
   with assessment and plan as above.  With rising BUN/creat we will hold
   on further diuresis.  Major goal now is to improve CHF status. We are
   attempting rate control with increasing beta blockade and will then
   increase captopril.  Still intermittently requiring vent support
   primarily when he needs to be supine.
   Time spent 45 min
   Critically Ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 115**] [**Last Name (NamePattern1) 116**], MD
   on:[**2174-9-8**] 17:15 ------

2174-09-09 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2174-9-8**] 08:10 AM
 INVASIVE VENTILATION - STOP [**2174-9-8**] 09:30 AM
 NUCLEAR MEDICINE - At [**2174-9-8**] 10:45 AM
 INVASIVE VENTILATION - START [**2174-9-8**] 12:08 PM
 INVASIVE VENTILATION - STOP [**2174-9-8**] 02:50 PM
 URINE CULTURE - At [**2174-9-8**] 02:52 PM
 INVASIVE VENTILATION - START [**2174-9-8**] 03:33 PM
 FEVER - 102.1
F - [**2174-9-8**] 01:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2174-9-8**] 06:26 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2174-9-9**] 04:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-9-9**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 36.9
C (98.5
   HR: 97 (92 - 145) bpm
   BP: 112/66(75) {80/11(41) - 123/81(100)} mmHg
   RR: 25 (12 - 45) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 131.4 kg (admission): 164 kg
   Height: 70 Inch
                  Total In:
                                                                  3,277 mL
                                                                    564 mL
   PO:
                                                                    360 mL
                  TF:
                                                                    911 mL
                                                                    264 mL
   IVF:
                                                                  1,371 mL
   Blood products:
   Total out:
                                                                  1,567 mL
                                                                    681 mL
   Urine:
                                                                  1,567 mL
                                                                    681 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,710 mL
                                                                   -117 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (400 - 780) mL
   PS : 8 cmH2O
   RR (Spontaneous): 34
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 133
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.53/41/112/31/11
   Ve: 13.8 L/min
   PaO2 / FiO2: 280
   Physical Examination
   Gen: lying in NAD
   HEENT: mosit membranes
   Neck: trach in place
   CV: irreg irreg, no m/r/g, distant heart sounds
   Lungs: coarse BS bilaterally
   Abd: PEG in place, NT, ND +BS
   Ext: warm to touch, trace edema
   Neuron: alert.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   353 K/uL
   12.9 g/dL
   169 mg/dL
   1.8 mg/dL
   31 mEq/L
   3.8 mEq/L
   113 mg/dL
   102 mEq/L
   147 mEq/L
   39.2 %
   16.2 K/uL
        [image002.jpg]
   HIV pending
   [**9-8**] Urine pending
   [**9-5**] sputum GS 4+ CPC in pairs and clusters
   [**9-6**] and [**9-7**] blood pending
   [**9-2**] and [**8-27**] blood NG
   [**8-25**] BAL viral HSV1 positive
   CXR: [**9-9**] no PNA or PVC, PICC pulled back slightly but still in central
   vein.
                             [**2174-9-6**]  03:00 AM
                             [**2174-9-6**]  03:15 PM
                             [**2174-9-6**]  05:41 PM
                             [**2174-9-7**]  06:27 AM
                             [**2174-9-7**]  02:43 PM
                             [**2174-9-8**]  04:02 AM
                             [**2174-9-8**]  03:48 PM
                             [**2174-9-8**]  04:01 PM
                             [**2174-9-9**]  03:59 AM
                             [**2174-9-9**]  05:00 AM
   WBC
   12.9
   14.4
   17.3
   15.6
   16.2
   Hct
   37.1
   38.0
   38.1
   36.2
   39.2
   Plt
   [**Telephone/Fax (3) **]46
   353
   Cr
   1.3
   1.3
   1.2
   1.5
   1.5
   1.9
   1.8
   TCO2
   34
   35
   Glucose
   138
   144
   165
   [**Telephone/Fax (3) 4056**]
   169
   Other labs: PT / PTT / INR:15.9/26.2/1.4, CK / CKMB /
   Troponin-T:922/3/0.13, ALT / AST:67/43, Alk Phos / T Bili:152/1.9,
   Amylase / Lipase:113/133, Differential-Neuts:85.1 %, Band:0.0 %,
   Lymph:9.6 %, Mono:4.5 %, Eos:0.4 %, Fibrinogen:932 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:3.8 g/dL, LDH:293 IU/L, Ca++:10.1 mg/dL,
   Mg++:3.2 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -etiology of ARF likely pre-renal given EF 10%
   - Continue to monitor BUN/Cr, Cr increased to 1.9 yesterday likely [**3-5**]
   increase in captopril which was subsequently decreased.
   - Yesterday, BUN rising, increased tachycardia and hypotension, appears
   pt becoming euvolemic.
   -yesterday 1.7 L positive, increase lasix to 60IV TID.
   - follow lytes this afternoon
   - s/p Diamox x2 doses for met alkalosis on [**9-7**]
   -Restared free water bolus at 200cc q4h
   - continue aggressive KCL while diuresis with met alkalosis.    If does
   not respond to KCL will restart diamox.  However feel that the slight
   increase in Ph from 7.46 yesterday afternoon likely [**3-5**] increased RR
   and decreased CO2.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Pts failure likely multifactorial.  From an infectious standpoint,
   multi-lobar pneumonia is contributing.  Bronchoscopy with BAL done [**8-25**]
   by pulmonary for quantitative cultures. Iinitial cytology shows HSV
   inclusions; HSV cult positive. CHF also likely playing role in resp
   failure given EF 10%.
   - had trach and PEG tube on [**9-5**]
   - Continue atrovent nebs prn
   - finished acyclovir, yesterday
   -No sign of pulm edema on recent CXR, however GS shows GPC
   - start vanco and precautions for possible MRSA PNA
   - adjustments to trach tape/straps only to be made by [**Doctor First Name 458**]
   -wean vent senting as tolerated, pt required increased vent support
   with the recent increase in secretions
   -nursing reports increased pulm secretions overnight, sputum cult sent
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
   Pt with severe cardiomyopathy and EF of only 10%. Unlikely that
   cardiomyopathy is not partially due to ischemia as OSH states.
   -Continue Digoxin at current dose
   -Lopressor was decreased from 37.5mg QID to 25mg QID  and Captopril for
   increased to 37.5mg TID overnight, however pt hypotensive, therefore
   captopril decreased back to 25mg TID, and lopressor increased back to
   37.5mg QID for rate control of afib.  Was unable to further increase BB
   [**3-5**] hypotension to SBP 80s.
   -increased lasix IV to 60 TID with goal I/O even
   -will consult heart failure service today to better manage CHF and afib
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   Continued fever today , WBC uptrending again., sputum cultures + [**8-18**]
   for pan-sensitive proteus, urine legionella Ag neg, sputum legionella
   cx neg to date, CT/CXR with b/l lower lobe consolidations. RIJ cath tip
   neg. Ucx to date neg. Tib/Fib film no evidence of osteomyelitis. TEE
   w/o evidence of endocarditis. Initial cytology from BAL showing HSV
   inclusions.  Now postive HSV1 viral culture. Renal, RUQ US neg.  CT
   sinus showed air-fluid levels c/w intubation, but cannot r/o infection.
   Source of fever unclear
   - Sputum now shows GPC, f/u cult
   -start vanco for possible MRSA PNA
   - BAL showed HSV inclusions, postive HSV1 culture
   - Finished Acyclovir 1000mg IV q8 for 14 days total
   - CMV viral load, no DNA detected
   - d/ced cefepime, levofloxacin, flagyl [**8-29**] since recent sputum,
   urine,  cult NG. Completed course for [**8-18**] proteus
   - Monitor daily LFTs given elevated amylase/lipase for concern of
   acalculous cholecystitis in setting of new fever. LFTs slowly
   decreasing, RUQ US negative for acute cholecystitis.
   - HIV pending
   - ID following.
   - f/u WBC scan results, pt became tachycardic and increased RR while
   lying flat for scan and study was cut short will repeat chest and arm
   portion today.
   - Plan to CT abd after WBC scan if neg and  if WBC increases and
   continues to be febrile
 DELIRIUM / CONFUSION
   Pt pulled out IJ, is pulling at trach. Now less agitated  Haldol
   switched to zyprexa 5mg TID.
   -pulled at PICC overnight
   - EKG for prolonged [**Month/Year (2) **] daily
 ATRIAL FIBRILLATION (AFIB)
   tachycardia increasing today, presented with AFib with RVR
   - increased beta blocker for rate control  to Metoprolol 37.5 mg, will
   aggressively uptitrate to 50mg QID if necessary
   - If rates become uncontroled in > 140s will increase dig dosage
   tomorrow
   -episode of 10 beats of wide complex tachycardia overnight, likely A
   fib with abberancy as upon admission
   -aggressively repleat KCL
   - will contact EP if continues
   -daily [**Name (NI) **] on EKG while on psych meds.
   -await heart failure input.
   COAGULOPATHY - possible sources since the last coumadin was given on
   [**8-24**] include hepatic and nutritional.  Hepatic possible given poor CO
   and episodic hypotension, however would expect higher LFTs if cause was
   ischemia. Of note LFT are elevated. Nutrition possible since no Vit K
   in tube feeds but near normal alb. a source could be levaquin, as this
   effects coumadin metabolism. DIC unlikely since platlets are rising.
   - heparin gtt d/c [**3-5**] PEG oozing.
   -          INR  2.9 to 1.4 today after one dose of Vit K, will keep at
   this level since no longer oozing at PEG site with plan of restarting
   coumadin in future for afib
   -can start heparin SQ prophalaxis
   PEG
 oozing diminished
   ICU Care
   Nutrition:
   Comments: Stoping TF, passed S+S eval, started on necture, soft solids
   and may advance as tolerated.  Had some difficulty with meal last
   evening. Restarted free water bolus at 200cc q4h
   Glycemic Control:  Regular insulin sliding scale, Comments: NPH
   standing
   Lines:
   PICC Line - [**2174-9-6**] 12:20 PM
 pulled out [**2-2**] inches by pt put still
   in place.
   18 Gauge - [**2174-9-6**] 12:55 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2174-09-10 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2174-9-9**] 08:28 AM
 INVASIVE VENTILATION - START [**2174-9-9**] 08:50 AM
 NUCLEAR MEDICINE - At [**2174-9-9**] 10:30 AM
 FEVER - 102.1
F - [**2174-9-9**] 04:00 PM
   Per ID: Cipro 400 IV for UTI, Vanc for PNA
   Cards rec carvedilol, restarting heparin, possible ablation/ICD once
   infection resolved
   0030 Yellow discharge around trach, suctioned 1600 mL from PEG (though
   had gotten no residuals from tube feeds during day).  Endotracheal
   suctioning produced nl sputum.  Seemed most likely gastric contents
   refluxed up and coming out around trach.  Evaluated by surgery, will
   need to f/u recs.
   Tachypnic to 40 breaths/min, started on AC (rate decreased to 20s)
   Repeatedly tachycardic to 150s, given 5 mg Lopressor x 2.  Held lasix.
   Tachycardia recurred, with tachypnea, around 0530, given lopressor 5 mg
   IV x2 again with minimal effect, then 25 mg IV diltiazem and 2 mg
   morphine with decrease in HR and RR.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2174-9-8**] 06:26 AM
   Vancomycin - [**2174-9-9**] 08:05 PM
   Ciprofloxacin - [**2174-9-10**] 12:10 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2174-9-9**] 08:00 AM
   Furosemide (Lasix) - [**2174-9-9**] 08:05 PM
   Heparin Sodium (Prophylaxis) - [**2174-9-10**] 04:10 AM
   Metoprolol - [**2174-9-10**] 05:55 AM
   Diltiazem - [**2174-9-10**] 06:06 AM
   Morphine Sulfate - [**2174-9-10**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-9-10**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.1
C (100.6
   HR: 100 (96 - 137) bpm
   BP: 120/48(65) {84/34(50) - 121/83(101)} mmHg
   RR: 23 (16 - 36) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 143 kg (admission): 164 kg
   Height: 70 Inch
             Total In:
                                                                  3,262 mL
                                                                    546 mL
   PO:
                                                                    160 mL
             TF:
                                                                  1,272 mL
                                                                     16 mL
   IVF:
                                                                    400 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,826 mL
                                                                  2,440 mL
   Urine:
                                                                  1,826 mL
                                                                    340 mL
   NG:
   2,100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,436 mL
                                                                 -1,894 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 365 (344 - 365) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: ///34/
   Ve: 12 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   303 K/uL
   13.1 g/dL
   214 mg/dL
   1.7 mg/dL
   34 mEq/L
   3.6 mEq/L
   125 mg/dL
   96 mEq/L
   145 mEq/L
   39.8 %
   14.4 K/uL
        [image002.jpg]
                             [**2174-9-6**]  05:41 PM
                             [**2174-9-7**]  06:27 AM
                             [**2174-9-7**]  02:43 PM
                             [**2174-9-8**]  04:02 AM
                             [**2174-9-8**]  03:48 PM
                             [**2174-9-8**]  04:01 PM
                             [**2174-9-9**]  03:59 AM
                             [**2174-9-9**]  05:00 AM
                             [**2174-9-9**]  06:33 PM
                             [**2174-9-10**]  02:09 AM
   WBC
   17.3
   15.6
   16.2
   14.4
   Hct
   38.1
   36.2
   39.2
   39.8
   Plt
   [**Telephone/Fax (3) 4079**]03
   Cr
   1.3
   1.2
   1.5
   1.5
   1.9
   1.8
   1.8
   1.7
   TCO2
   34
   35
   Glucose
   144
   165
   253
   [**Telephone/Fax (3) 4080**]
   186
   214
   Other labs: PT / PTT / INR:16.7/27.6/1.5, CK / CKMB /
   Troponin-T:922/3/0.13, ALT / AST:67/43, Alk Phos / T Bili:152/1.9,
   Amylase / Lipase:113/133, Differential-Neuts:85.1 %, Band:0.0 %,
   Lymph:9.6 %, Mono:4.5 %, Eos:0.4 %, Fibrinogen:932 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:3.8 g/dL, LDH:293 IU/L, Ca++:9.9 mg/dL,
   Mg++:3.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DELIRIUM / CONFUSION
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
   Assessment and Plan
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -etiology of ARF likely pre-renal given EF 10%
   - Continue to monitor BUN/Cr, Cr increased to 1.9 yesterday likely [**3-5**]
   increase in captopril which was subsequently decreased.
   - Yesterday, BUN rising, increased tachycardia and hypotension, appears
   pt becoming euvolemic.
   -yesterday 1.7 L positive, increase lasix to 60IV TID.
   - follow lytes this afternoon
   - s/p Diamox x2 doses for met alkalosis on [**9-7**]
   -Restared free water bolus at 200cc q4h
   - continue aggressive KCL while diuresis with met alkalosis.    If does
   not respond to KCL will restart diamox.  However feel that the slight
   increase in Ph from 7.46 yesterday afternoon likely [**3-5**] increased RR
   and decreased CO2.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Pts failure likely multifactorial.  From an infectious standpoint,
   multi-lobar pneumonia is contributing.  Bronchoscopy with BAL done [**8-25**]
   by pulmonary for quantitative cultures. Iinitial cytology shows HSV
   inclusions; HSV cult positive. CHF also likely playing role in resp
   failure given EF 10%.
   - had trach and PEG tube on [**9-5**]
   - Continue atrovent nebs prn
   - finished acyclovir, yesterday
   -No sign of pulm edema on recent CXR, however GS shows GPC
   - start vanco and precautions for possible MRSA PNA
   - adjustments to trach tape/straps only to be made by [**Doctor First Name 458**]
   -wean vent senting as tolerated, pt required increased vent support
   with the recent increase in secretions
   -nursing reports increased pulm secretions overnight, sputum cult sent
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
   Pt with severe cardiomyopathy and EF of only 10%. Unlikely that
   cardiomyopathy is not partially due to ischemia as OSH states.
   -Continue Digoxin at current dose
   -Lopressor was decreased from 37.5mg QID to 25mg QID  and Captopril for
   increased to 37.5mg TID overnight, however pt hypotensive, therefore
   captopril decreased back to 25mg TID, and lopressor increased back to
   37.5mg QID for rate control of afib.  Was unable to further increase BB
   [**3-5**] hypotension to SBP 80s.
   -increased lasix IV to 60 TID with goal I/O even
   -will consult heart failure service today to better manage CHF and afib
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   Continued fever today , WBC uptrending again., sputum cultures + [**8-18**]
   for pan-sensitive proteus, urine legionella Ag neg, sputum legionella
   cx neg to date, CT/CXR with b/l lower lobe consolidations. RIJ cath tip
   neg. Ucx to date neg. Tib/Fib film no evidence of osteomyelitis. TEE
   w/o evidence of endocarditis. Initial cytology from BAL showing HSV
   inclusions.  Now postive HSV1 viral culture. Renal, RUQ US neg.  CT
   sinus showed air-fluid levels c/w intubation, but cannot r/o infection.
   Source of fever unclear
   - Sputum now shows GPC, f/u cult
   -start vanco for possible MRSA PNA
   - BAL showed HSV inclusions, postive HSV1 culture
   - Finished Acyclovir 1000mg IV q8 for 14 days total
   - CMV viral load, no DNA detected
   - d/ced cefepime, levofloxacin, flagyl [**8-29**] since recent sputum,
   urine,  cult NG. Completed course for [**8-18**] proteus
   - Monitor daily LFTs given elevated amylase/lipase for concern of
   acalculous cholecystitis in setting of new fever. LFTs slowly
   decreasing, RUQ US negative for acute cholecystitis.
   - HIV pending
   - ID following.
   - f/u WBC scan results, pt became tachycardic and increased RR while
   lying flat for scan and study was cut short will repeat chest and arm
   portion today.
   - Plan to CT abd after WBC scan if neg and  if WBC increases and
   continues to be febrile
 DELIRIUM / CONFUSION
   Pt pulled out IJ, is pulling at trach. Now less agitated  Haldol
   switched to zyprexa 5mg TID.
   -pulled at PICC overnight
   - EKG for prolonged [**Month/Year (2) **] daily
 ATRIAL FIBRILLATION (AFIB)
   tachycardia increasing today, presented with AFib with RVR
   - increased beta blocker for rate control  to Metoprolol 37.5 mg, will
   aggressively uptitrate to 50mg QID if necessary
   - If rates become uncontroled in > 140s will increase dig dosage
   tomorrow
   -episode of 10 beats of wide complex tachycardia overnight, likely A
   fib with abberancy as upon admission
   -aggressively repleat KCL
   - will contact EP if continues
   -daily [**Name (NI) **] on EKG while on psych meds.
   -await heart failure input.
   COAGULOPATHY - possible sources since the last coumadin was given on
   [**8-24**] include hepatic and nutritional.  Hepatic possible given poor CO
   and episodic hypotension, however would expect higher LFTs if cause was
   ischemia. Of note LFT are elevated. Nutrition possible since no Vit K
   in tube feeds but near normal alb. a source could be levaquin, as this
   effects coumadin metabolism. DIC unlikely since platlets are rising.
   - heparin gtt d/c [**3-5**] PEG oozing.
   -          INR  2.9 to 1.4 today after one dose of Vit K, will keep at
   this level since no longer oozing at PEG site with plan of restarting
   coumadin in future for afib
   -can start heparin SQ prophalaxis
   PEG
 oozing diminished
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2174-9-6**] 12:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2174-09-10 10:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Pt with tachpnea noted and responsive to A/C mode implementation
   Tube feeds were started and continued without event until 9pm when
   evidence of significant residuals were seen and suggestion of
   aspiration of contents was seen.
   patient with tachycardia this morning to 150 bpm and remained in A-Fib
   throughout.
 INVASIVE VENTILATION - STOP [**2174-9-9**] 08:28 AM
 INVASIVE VENTILATION - START [**2174-9-9**] 08:50 AM
 NUCLEAR MEDICINE - At [**2174-9-9**] 10:30 AM
 FEVER - 102.1
F - [**2174-9-9**] 04:00 PM
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2174-9-8**] 06:26 AM
   Ciprofloxacin - [**2174-9-10**] 12:10 AM
   Vancomycin - [**2174-9-10**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2174-9-9**] 08:05 PM
   Heparin Sodium (Prophylaxis) - [**2174-9-10**] 04:10 AM
   Metoprolol - [**2174-9-10**] 05:55 AM
   Diltiazem - [**2174-9-10**] 06:06 AM
   Morphine Sulfate - [**2174-9-10**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Cardiovascular: Tachycardia
   Nutritional Support: Tube feeds
   Gastrointestinal: TF's
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2174-9-10**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.7
C (101.7
   HR: 123 (96 - 137) bpm
   BP: 119/69(83) {84/34(50) - 121/83(101)} mmHg
   RR: 16 (16 - 36) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 143 kg (admission): 164 kg
   Height: 70 Inch
             Total In:
                                                                  3,262 mL
                                                                    792 mL
   PO:
                                                                    160 mL
             TF:
                                                                  1,272 mL
                                                                     12 mL
   IVF:
                                                                    400 mL
                                                                    550 mL
   Blood products:
   Total out:
                                                                  1,826 mL
                                                                  2,510 mL
   Urine:
                                                                  1,826 mL
                                                                    410 mL
   NG:
   2,100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,436 mL
                                                                 -1,718 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 572 (344 - 572) mL
   PS : 18 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 11.8 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
Patient with clear pattern of apnea
   followed by tachypnea and then subsequent apnea.
   Abdominal: Soft, Decreased BS
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   13.1 g/dL
   303 K/uL
   214 mg/dL
   1.7 mg/dL
   34 mEq/L
   3.6 mEq/L
   125 mg/dL
   96 mEq/L
   145 mEq/L
   39.8 %
   14.4 K/uL
        [image002.jpg]
                             [**2174-9-6**]  05:41 PM
                             [**2174-9-7**]  06:27 AM
                             [**2174-9-7**]  02:43 PM
                             [**2174-9-8**]  04:02 AM
                             [**2174-9-8**]  03:48 PM
                             [**2174-9-8**]  04:01 PM
                             [**2174-9-9**]  03:59 AM
                             [**2174-9-9**]  05:00 AM
                             [**2174-9-9**]  06:33 PM
                             [**2174-9-10**]  02:09 AM
   WBC
   17.3
   15.6
   16.2
   14.4
   Hct
   38.1
   36.2
   39.2
   39.8
   Plt
   [**Telephone/Fax (3) 4079**]03
   Cr
   1.3
   1.2
   1.5
   1.5
   1.9
   1.8
   1.8
   1.7
   TCO2
   34
   35
   Glucose
   144
   165
   253
   [**Telephone/Fax (3) 4080**]
   186
   214
   Other labs: PT / PTT / INR:16.7/27.6/1.5, CK / CKMB /
   Troponin-T:922/3/0.13, ALT / AST:67/43, Alk Phos / T Bili:152/1.9,
   Amylase / Lipase:113/133, Differential-Neuts:85.1 %, Band:0.0 %,
   Lymph:9.6 %, Mono:4.5 %, Eos:0.4 %, Fibrinogen:932 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:3.8 g/dL, LDH:293 IU/L, Ca++:9.9 mg/dL,
   Mg++:3.2 mg/dL, PO4:4.6 mg/dL
   Imaging: TWBC Scan-NO focal areas seen
no new focal infiltrates
   seen despite aspiration concern O/N
   Assessment and Plan
   50 yo male with admission following episode of unresponsiveness and
   with A-Fib with RVR and now hospital course notable for persistent
   ventilatory failure and recurrent fevers.  Of note over past 24 hours
   is evidence of significant aspiration with initiation of tube feeds
   yesterday.  This has been accompanied by evidence of significant SIRS
   with changes in RR and HR and Fever which is concerning for aspiration
   pneumonitis.
   Respiratory Failure
Has trachestomy in place with good function.  He
   has a cycle of central periodic breathing which may well be seen in CHF
   and central chemosensor changes.  He has ongoing Rx for VAP and concern
   for recurrent aspiration is seen.  He has Rx with
   Vanco/Cipro and will use repeat culture or new infiltrate on CXR to
   guide expansion of ABX
   Likely euovolemic
   Will need ABG to evaluate effective ventilation
yesterday was 7.53/41
   suggesting metabolic alkalosis which may be diuresis related..
   Nutrition-Will need tube feeds to restart as possible.  Will need
   medications to be administered.  He is passing gas and stool from
   below.
   -Has very important po medications to be restarted or moved to IV.
   -KUB if not tolerated with contrast.
   -Move to Reglan/Erythro/Narcan as motility needed.
   Sepsis-Fever has moved to qualify as Sepsis at this time.  Source may
   well be pulmonary with recent aspiraiton but his does not explain the
   persistent fevers over previous days.  Will have to Rx. as pneumonia at
   this time.  Was on Vanco/Cipro before today.
   -Continue Vanco/Cipro
   -Will expand based on focal findings
   -Fever source incompletely explained and will have to consider D/C of
   all abx with treatment course completed if no new culture results seen.
   Atrial Fibrillation-
   Lopressor to continue and is needed
   [**Month (only) 60**] need more definitive Rx with Ablation but not in the setting of
   active infection.
   -Rate control will be at issue over long term
   -Anticoagulation to restart given healing from wound sites.
   Congestive Heart Failure-Acute and Chronic with systolic impairment
   -Digoxin
   -Lasix PRN
   -Will need Carvedilol to return.
 HYPERNATREMIA (HIGH SODIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DELIRIUM / CONFUSION
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2174-9-6**] 12:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2174-09-11 06:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2174-9-10**] 11:00 AM
 SPUTUM CULTURE - At [**2174-9-10**] 11:00 AM
 UNPLANNED EXTUBATION (NON-PATIENT INITIATED) - At [**2174-9-10**] 11:40
   AM-pt manipulated in bed, lost trach, replaced by anesthesia and
   surgery resulting in barotrauma and pneumomediastinum.
 URINE CULTURE - At [**2174-9-10**] 12:00 PM
 FEVER - 103.1
C - [**2174-9-11**] 03:00 AM-called for patient looking
   "like he was going to die," pt look ashen and eyes sunken which is how
   he looked all that day-meds reviewed and electrolytes repleted with
   what he could get IV
   -Required bolus 250cc LR x2, then started on d51/2Ns at 75cc/hr-thought
   to be dry/still we met alkalosis
   -Pt also had residuals, Gtube to gravity, sent for CT torsos which
   should new aspiration and ileus, given reglan and enemas to start
   bowels, but no stool and still high residuals-tube feeds held until NG
   putting out ,150cc/24hrs
   -Pt also had bump in Cr, help Vanc does for level of 17 and ARF
   History obtained from Patient, Family / Friend
   Allergies:
   History obtained from Patient, Family / FriendNo Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2174-9-8**] 06:26 AM
   Vancomycin - [**2174-9-10**] 08:00 AM
   Ciprofloxacin - [**2174-9-10**] 12:00 PM
   Ceftazidime - [**2174-9-10**] 03:00 PM
   Cefipime - [**2174-9-10**] 11:53 PM
   Metronidazole - [**2174-9-11**] 04:11 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2174-9-10**] 06:06 AM
   Morphine Sulfate - [**2174-9-10**] 06:07 AM
   Furosemide (Lasix) - [**2174-9-10**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2174-9-10**] 08:20 PM
   Metoprolol - [**2174-9-10**] 10:11 PM
   Famotidine (Pepcid) - [**2174-9-10**] 11:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-9-11**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 39
C (102.2
   HR: 91 (91 - 166) bpm
   BP: 98/71(78) {91/46(62) - 134/92(101)} mmHg
   RR: 18 (14 - 37) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 142.5 kg (admission): 164 kg
   Height: 70 Inch
             Total In:
                                                                  2,697 mL
                                                                    602 mL
   PO:
             TF:
                                                                     12 mL
   IVF:
                                                                  1,555 mL
                                                                    602 mL
   Blood products:
   Total out:
                                                                  3,885 mL
                                                                    695 mL
   Urine:
                                                                    965 mL
                                                                    495 mL
   NG:
                                                                  2,920 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,188 mL
                                                                    -93 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 694 (572 - 694) mL
   PS : 18 cmH2O
   RR (Set): 14
   RR (Spontaneous): 13
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.55/37/133/33/10
   Ve: 12.2 L/min
   PaO2 / FiO2: 332
   Physical Examination
   Gen: lying in NAD, difficult to arouse
   HEENT: dry mucous membranes
   Neck: trach in place
   Lungs: Clear anteriorly
   CV: distant heart sounds, irreg, irreg rythem, no m/r/g
   Abd: PEG tube without oozing, hypoactive BS, obese abd, ND/NT
   Ext: no edema, warm to touch
   Neuro: not alert, intermittently responding to voice
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Labs / Radiology
   262 K/uL
   12.7 g/dL
   231 mg/dL
   2.3 mg/dL
   33 mEq/L
   3.1 mEq/L
   149 mg/dL
   101 mEq/L
   150 mEq/L
   37.2 %
   10.1 K/uL
        [image002.jpg]
   Micro:
   [**9-10**] sputum GS 4+ GPC in pair/clusters
   Sputum #2: 3+ GPC in pairs and clusters, 1+ GPC in short chains
   [**9-10**] Urine and blood pending
   [**9-8**] Urine: Pseudomonas > 100,000
   [**9-8**] Sputum: heavy  coag + staph , sparse GNR. Sensitivities: S to
   bactrim and oxacillin.
   [**9-6**] and [**9-7**] blood pending.
   Rads:
   [**9-7**] WBC scan: no focal uptake in chest and abd. + superficial uptake in
   R posterior chest
   [**9-10**] CT torso:
   IMPRESSION:
   1. Moderate pneumomediastinum, which may be secondary to recent trauma
   of the
   tracheostomy tube.
   2. Bilateral lower lobe patchy opacities consistent with aspiration.
   3. Prominent heart.
   4. Bilateral gynecomastia.
   5. Moderate amount of free intraperitoneal air as well as air within
   the
   lesser sac which may be secondary to recent PEG tube placement.
   6. Moderately dilated air-filled loops of both large and small bowel
   which is
   most suggestive of an ileus. No evidence of obstruction. Followup
   evaluation
   with plain films of the abdomen may be helpful. Findings were discussed
   with
   the resident [**First Name4 (NamePattern1) 407**] [**Last Name (NamePattern1) 3998**] at 6:10 p.m.
   [**9-10**] CXR: trach in place, pneumomediastinum.
   [**9-11**] CXR: decreased pneumomediastinum
                             [**2174-9-9**]  03:59 AM
                             [**2174-9-9**]  05:00 AM
                             [**2174-9-9**]  06:33 PM
                             [**2174-9-10**]  02:09 AM
                             [**2174-9-10**]  11:06 AM
                             [**2174-9-10**]  01:53 PM
                             [**2174-9-10**]  02:17 PM
                             [**2174-9-10**]  07:30 PM
                             [**2174-9-11**]  12:35 AM
                             [**2174-9-11**]  02:12 AM
   WBC
   16.2
   14.4
   10.1
   Hct
   39.2
   39.8
   37.2
   Plt
   353
   303
   262
   Cr
   1.8
   1.8
   1.7
   2.2
   2.3
   2.3
   TCO2
   35
   33
   35
   33
   Glucose
   169
   186
   214
   223
   227
   231
   Other labs: PT / PTT / INR:19.7/30.1/1.8, CK / CKMB /
   Troponin-T:922/3/0.13, ALT / AST:67/43, Alk Phos / T Bili:152/1.9,
   Amylase / Lipase:113/133, Differential-Neuts:85.1 %, Band:0.0 %,
   Lymph:9.6 %, Mono:4.5 %, Eos:0.4 %, Fibrinogen:932 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:3.8 g/dL, LDH:293 IU/L, Ca++:9.5 mg/dL,
   Mg++:3.1 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Pts failure likely multifactorial.  From an infectious standpoint,
   multi-lobar pneumonia is contributing in addition to CHF (EF 10%)
   -Currently dry; will hold on lasix
   - Continue atrovent nebs prn
   -[**9-8**] sputum, showed MSSA, therefore d/c  vanc. Had added flagyl for
   concern of aspiration pna.  As per ID switched to clindamycin  450mg IV
   q6h for MSSA and anerobe coverage.  However, clinda sensitivities were
   not listed, called lab to add on clindamycin sensitivity, will be ready
   [**9-12**].
   - d/c precautions.
   -daily CXR to monitor for aspiration PNA.
   - Urine grew Pseudomonas, continue on Ceftazidime 2gm q12h IV
   -Switched back to PS this am, keep on PS as tolerated. If tires go back
   to AC, tolerate higher CO2 given metabolic alk
   #Metabolic Alkalosis- Likely [**3-5**] large volume diuresis; pH 7.55 today.
   Will aggressively give KCL today and continue Diamox; recheck lytes q6h
   (K, NA, HCO3)
   -          aggressively give KCL, goal K > 4.5
   -          presistant met alk despite stopping lasix suggests an
   additional reason.  Likely [**3-5**] GI losses ( hight PEG output)
   -          Will calculated TTKG today
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
   Pt with severe cardiomyopathy and EF of only 10%.
   -Continue Digoxin at current dose; although pt not tolerating PO in
   setting of ? SBO/blocked G tube thus will give IV Metoprolol until PO
   can be resumed
   -Changed from Metoprolol to Carvedilol per Cardiology; will restart
   when tolerating PO
   -Appears euvolemic if not dry on exam; thus holding lasix for now
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -WBC scan unremarkable, HIV negative
   -Continued fever today , sputum cultures grew GPC and now covering with
   vanc but given concern for possible aspiration pna; will add flagyl
   -Urine culture grew Proteus; starting Ceftazidine today
   -obtain new sputum cultures
   #[**Name (NI) 4087**] Pt had large bilious return from PEG tube/ET tube o/n however no
   residuals from G tube per nursing; concern for gastroparesis vs SBO vs
   ileus
   -Attempt reglan
   -Consult surgery to determine if PEG functioning properly
   -CT Abdomen per surgery to evaluate for SBO/Ileus
   -NPO for now
   -NGT to gravity; monitior bilious return
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- Now improving;
   likely as not diuresing as aggressively and thus ? pre-renal and
   intravascularly dry.
   -Hold lasix
   -Goal even for now
   -Renally dose meds
 DELIRIUM / CONFUSION
   -Zyprexa
 ATRIAL FIBRILLATION (AFIB)
   -Cardiology consulted; transitioned from metoprolol to carvedilol
   however unable to receive given NPO and PEG tube issues; will use IV
   Lopressor for now
   -Continue dig when able to give PO
   -No anti-coagulation for now given oozing from peg site previously
   #COAGULOPATHY - possible sources since the last coumadin was given on
   [**8-24**] include hepatic and nutritional.  Hepatic possible given poor CO
   and episodic hypotension, however would expect higher LFTs if cause was
   ischemia. Of note LFT are elevated. Nutrition possible since no Vit K
   in tube feeds but near normal alb. a source could be levaquin, as this
   effects coumadin metabolism. DIC unlikely since platelets are rising.
   -Holding heparin
   ICU Care
   Nutrition: NPO,  holding tube feeds
   Glycemic Control:  Insulin SS
   Lines:
   PICC Line - [**2174-9-6**] 12:20 PM
   Prophylaxis:
   DVT: Pneumoboots, Heparin SC
   Stress ulcer:  Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   NOTE WAS PREMATURELY SIGNED, PLEASE SEE BELOW FOR ACTUAL A+P:
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Pts failure likely multifactorial.  From an infectious standpoint,
   multi-lobar pneumonia is contributing in addition to CHF (EF 10%)
   -Currently dry; will hold on lasix
   - Continue atrovent nebs prn
   -[**9-8**] sputum, showed MSSA, therefore d/c  vanc. Had added flagyl for
   concern of aspiration pna.  As per ID switched to clindamycin  450mg IV
   q6h for MSSA and anerobe coverage.  However, clinda sensitivities were
   not listed, called lab to add on clindamycin sensitivity, will be ready
   [**9-12**].
   - d/c precautions.
   -daily CXR to monitor for aspiration PNA.
   - Urine grew Pseudomonas, continue on Ceftazidime 2gm q12h IV
   -Switched back to PS this am, keep on PS as tolerated. If tires go back
   to AC, tolerate higher CO2 given metabolic alk
   #Metabolic Alkalosis- Likely [**3-5**] large volume diuresis; pH 7.55 today.
   Will aggressively give KCL today and continue Diamox; recheck lytes q6h
   (K, NA, HCO3)
   -          aggressively give KCL, goal K > 4.5
   -          presistant met alk despite stopping lasix suggests an
   additional reason.  Likely [**3-5**] GI losses ( hight PEG output)
   -          Will calculated TTKG today to confirm alk [**3-5**] GI losses
   - If TTKG not suggestive of GI loss and unresponsive to KCL and diamox
   will consider work up for hyperadrenal state.
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
   Pt with severe cardiomyopathy and EF of only 10%.
    - pt not tolerating PO in setting of  ileus,  thus will give IV
   Metoprolol until PO can be resumed
   -Continue Digoxin at current dose once PO intake can be resumed
   -Changed from Metoprolol to Carvedilol per Cardiology; will restart
   when tolerating PO
   -Appears dry on exam with rising Cr and BUN; thus holding lasix for
   now, giving IVF
   -cards suggested starting heparin, will hold for now given recent
   oozing of PEG and possibility of procedures in near future.  Given 5%
   risk of event per year and limit expected pt lifespan, do not feel
   strongly on starting heparin
   -pt HR poorly responding to IV metoprolol and IVF, will give IV dig if
   continuing.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -WBC scan unremarkable, HIV negative
   -Continued fever today , sputum cultures grew MSSA, switched abx from
   vanco and flagyl to clinda and Ceftaz
   -f/u sputum clinda sensitivities
   -Urine culture grew Proteus; starting Ceftazidine today
   #[**Name (NI) 4087**] Pt had large bilious return from PEG tube/ET tube o/n however no
   residuals from G tube per nursing; concern for gastroparesis vs SBO vs
   ileus
   -CT consistant with ileus
   -Attempt reglan
   -Consult surgery to determine if PEG functioning properly
   -CT Abdomen per surgery to evaluate for SBO/Ileus
   -NPO for now
   -NGT to gravity; monitior bilious return
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- Now improving;
   likely as not diuresing as aggressively and thus ? pre-renal and
   intravascularly dry.
   -Hold lasix
   -Goal even for now
   -Renally dose meds
 DELIRIUM / CONFUSION
   -Zyprexa
 ATRIAL FIBRILLATION (AFIB)
   -Cardiology consulted; transitioned from metoprolol to carvedilol
   however unable to receive given NPO and PEG tube issues; will use IV
   Lopressor for now
   -Continue dig when able to give PO
   -No anti-coagulation for now given oozing from peg site previously
   #COAGULOPATHY - possible sources since the last coumadin was given on
   [**8-24**] include hepatic and nutritional.  Hepatic possible given poor CO
   and episodic hypotension, however would expect higher LFTs if cause was
   ischemia. Of note LFT are elevated. Nutrition possible since no Vit K
   in tube feeds but near normal alb. a source could be levaquin, as this
   effects coumadin metabolism. DIC unlikely since platelets are rising.
   -Holding heparin
   ICU Care
   Nutrition: NPO,  holding tube feeds
   Glycemic Control:  Insulin SS
   Lines:
   PICC Line - [**2174-9-6**] 12:20 PM
   Prophylaxis:
   DVT: Pneumoboots, Heparin SC
   Stress ulcer:  Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section Addendum Entered By:[**Name (NI) 809**] [**Last Name (NamePattern1) 4025**], MD
   on:[**2174-9-11**] 04:14 PM ------
   NOTE WAS PREMATURELY SIGNED YET AGAIN, PLEASE SEE BELOW FOR ACTUAL A+P:
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Pts failure likely multifactorial.  From an infectious standpoint,
   multi-lobar pneumonia is contributing in addition to CHF (EF 10%)
   -Currently dry; will hold on lasix
   - Continue atrovent nebs prn
   -[**9-8**] sputum, showed MSSA, therefore d/c  vanc. Had added flagyl for
   concern of aspiration pna.  As per ID switched to clindamycin  450mg IV
   q6h for MSSA and anerobe coverage.  However, clinda sensitivities were
   not listed, called lab to add on clindamycin sensitivity, will be ready
   [**9-12**].
   - d/c precautions.
   -daily CXR to monitor for aspiration PNA.
   - Urine grew Pseudomonas, continue on Ceftazidime 2gm q12h IV
   -Switched back to PS this am, keep on PS as tolerated. If tires go back
   to AC, tolerate higher CO2 given metabolic alk
   #Metabolic Alkalosis- Likely [**3-5**] large volume diuresis; pH 7.55 today.
   Will aggressively give KCL today and continue Diamox; recheck lytes q6h
   (K, NA, HCO3)
   -          aggressively give KCL, goal K > 4.5
   -          presistant met alk despite stopping lasix suggests an
   additional reason.  Likely [**3-5**] GI losses ( hight PEG output)
   -          Will calculated TTKG today to confirm alk [**3-5**] GI losses
   - If TTKG not suggestive of GI loss and unresponsive to KCL and diamox
   will consider work up for hyperadrenal state.
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
   Pt with severe cardiomyopathy and EF of only 10%.
    - pt not tolerating PO in setting of  ileus,  thus will give IV
   Metoprolol until PO can be resumed
   -Continue Digoxin at current dose once PO intake can be resumed
   -Changed from Metoprolol to Carvedilol per Cardiology; will restart
   when tolerating PO
   -Appears dry on exam with rising Cr and BUN; thus holding lasix for
   now, giving IVF
   -cards suggested starting heparin, will hold for now given recent
   oozing of PEG and possibility of procedures in near future.  Given 5%
   risk of event per year and limit expected pt lifespan, do not feel
   strongly on starting heparin
   -pt HR poorly responding to IV metoprolol and IVF, will give IV dig if
   continuing.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -WBC scan unremarkable, HIV negative
   - f/u Hep panel
   -Continued fever today , sputum cultures grew MSSA, switched abx from
   vanco and flagyl to clinda and Ceftaz
   -f/u sputum clinda sensitivities
   -Urine culture grew Proteus; starting Ceftazidine today
   #[**Name (NI) 4087**] Pt had large bilious return from PEG tube/ET tube o/n however no
   residuals from G tube per nursing; concern for gastroparesis vs SBO vs
   ileus
   -CT consistant with ileus
   - G-tube to gravity and avoid TF or meds via PEG until residuals are
   (<150cc/8hrs) and non-bilioius as per surgery
   - added lactulose enema to bowel regimen
   -added erythromycin 250mg PO q6h in attempt to resolve ileus
   - monitor PEG residuals.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- Now stable; likely
   pre-renal and intravascularly dry [**3-5**] intense diuresis. FeNa suggestive
   of pre-renal etiology
   -Hold lasix
   -Goal I/O postitive 3 L today given calculated free water deficit of
   5.6 L
   -Giving D5W at 150/hr
   -check pm sodium
   -Renally dose meds
 DELIRIUM / CONFUSION
   -Zyprexa
 ATRIAL FIBRILLATION (AFIB)
   -Cardiology consulted; transitioned from metoprolol to carvedilol
   however unable to receive given NPO and PEG tube issues; will use IV
   Lopressor for now
   -Continue dig when able to give PO
   -No anti-coagulation for now given oozing from peg site previously
   #COAGULOPATHY - possible sources since the last coumadin was given on
   [**8-24**] include hepatic and nutritional.  Hepatic possible given poor CO
   and episodic hypotension, however would expect higher LFTs if cause was
   ischemia. Of note LFT are elevated. Nutrition possible since no Vit K
   in tube feeds but near normal alb. a source could be levaquin, as this
   effects coumadin metabolism. DIC unlikely since platelets are rising.
   -Holding heparin
   -INR up to 1.8, if raises to > 2.0 will consider additional dose of
   coumadin
   ICU Care
   Nutrition: NPO,  holding tube feeds
   Glycemic Control:  Insulin SS, raised standing NPH to 12U q12H
   Lines:
   PICC Line - [**2174-9-6**] 12:20 PM
   Pt is difficult ABG stick, failed attempt today, would like A line but
   will defer at this time since unable to get ABG.
   Prophylaxis:
   DVT: Pneumoboots, Heparin SC
   Stress ulcer:  Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section Addendum Entered By:[**Name (NI) 809**] [**Last Name (NamePattern1) 4025**], MD
   on:[**2174-9-11**] 05:15 PM ------

2174-09-11 09:13:00 Physician Attending Progress Note
Chief Complaint: Resp Failure
   Fever
   A-Fib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   patient with trachestomy dislodged and returned to position by surgery
   team
   CT scan showed no evidence of complete obstruction
   Persistent fevers noted
   Intermittent hypotension this am with SBP to 70 transiently this
   morning
 BLOOD CULTURED - At [**2174-9-10**] 11:00 AM
 SPUTUM CULTURE - At [**2174-9-10**] 11:00 AM
 UNPLANNED EXTUBATION (NON-PATIENT INITIATED) - At [**2174-9-10**] 11:40 AM
 URINE CULTURE - At [**2174-9-10**] 12:00 PM
 FEVER - 103.1
C - [**2174-9-11**] 03:00 AM
   History obtained from [**Hospital 85**] Medical records, Yes/No questions
   attempted
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-9-10**] 08:00 AM
   Ciprofloxacin - [**2174-9-10**] 12:00 PM
   Ceftazidime - [**2174-9-10**] 03:00 PM
   Cefipime - [**2174-9-10**] 11:53 PM
   Metronidazole - [**2174-9-11**] 04:11 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2174-9-10**] 12:00 PM
   Famotidine (Pepcid) - [**2174-9-10**] 11:53 PM
   Heparin Sodium (Prophylaxis) - [**2174-9-11**] 04:00 AM
   Metoprolol - [**2174-9-11**] 06:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Nutritional Support: Tube feeds
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2174-9-11**] 08:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 38.9
C (102
   HR: 102 (91 - 166) bpm
   BP: 74/65(63) {74/46(62) - 134/92(100)} mmHg
   RR: 21 (14 - 37) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 142.5 kg (admission): 164 kg
   Height: 70 Inch
             Total In:
                                                                  2,697 mL
                                                                  1,371 mL
   PO:
             TF:
                                                                     12 mL
   IVF:
                                                                  1,555 mL
                                                                  1,371 mL
   Blood products:
   Total out:
                                                                  3,885 mL
                                                                    835 mL
   Urine:
                                                                    965 mL
                                                                    610 mL
   NG:
                                                                  2,920 mL
                                                                    225 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,188 mL
                                                                    536 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnPres
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 615 (615 - 694) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.55/37/133/33/10
   Ve: 12 L/min
   PaO2 / FiO2: 332
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.7 g/dL
   262 K/uL
   231 mg/dL
   2.3 mg/dL
   33 mEq/L
   3.1 mEq/L
   149 mg/dL
   101 mEq/L
   150 mEq/L
   37.2 %
   10.1 K/uL
        [image002.jpg]
                             [**2174-9-9**]  03:59 AM
                             [**2174-9-9**]  05:00 AM
                             [**2174-9-9**]  06:33 PM
                             [**2174-9-10**]  02:09 AM
                             [**2174-9-10**]  11:06 AM
                             [**2174-9-10**]  01:53 PM
                             [**2174-9-10**]  02:17 PM
                             [**2174-9-10**]  07:30 PM
                             [**2174-9-11**]  12:35 AM
                             [**2174-9-11**]  02:12 AM
   WBC
   16.2
   14.4
   10.1
   Hct
   39.2
   39.8
   37.2
   Plt
   353
   303
   262
   Cr
   1.8
   1.8
   1.7
   2.2
   2.3
   2.3
   TCO2
   35
   33
   35
   33
   Glucose
   169
   186
   214
   223
   227
   231
   Other labs: PT / PTT / INR:19.7/30.1/1.8, CK / CKMB /
   Troponin-T:922/3/0.13, ALT / AST:67/43, Alk Phos / T Bili:152/1.9,
   Amylase / Lipase:113/133, Differential-Neuts:85.1 %, Band:0.0 %,
   Lymph:9.6 %, Mono:4.5 %, Eos:0.4 %, Fibrinogen:932 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:3.8 g/dL, LDH:293 IU/L, Ca++:9.5 mg/dL,
   Mg++:3.1 mg/dL, PO4:6.1 mg/dL
   Imaging: CT-Torso
   Pneumomediastinum
   Ileus suggested
   Bilateral LL opacities
   Free air in peritoneal space
   CXR--Decreased pneumomediastinum
   Microbiology: Sputum [**9-8**]--GPC and GNR
   Sptutum [**2174-9-10**]--Persistent GPC's
   Urine [**9-8**]--Pseudomonas
   Assessment and Plan
   50 yo male with cardiomyopathy found with A-fib and RVR complicated by
   respiratory failure and now with recurrent fevers.  He has had a number
   of positive culture results with urine and sputum suggesting bacterial
   growth but has had clinical improvement in the setting of antibiotics
   otherwise despite fevers continuing.  Events of past 24 hours were
   dominated by evidence of imparied gastic emptying and likely
   significant aspiration event by history. Radiographically he has
   minimal evidence of evolution of a new and significiant pulmonary
   infiltrate.  He is currently tolerating PSV quite well with pressures
   [**1-6**] and demonstrates a persistent [**Last Name (un) 1464**]-[**Doctor Last Name 1465**] pattern of ventilation
   this time but overall readiographically and by objective measures lung
   function remains reasonably well preserved despite aspiration event.
 HYPERNATREMIA (HIGH SODIUM)-
   Maintains free water deficit and will need to replace deficit of approx
   3.5 liters today.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -Source not identified at this time but with culture results suggesting
   possible pulmonary and urinary growth
   -Ceftaz/Flagyl/Cipro/Bactim
   -Given fever and persistent cultures will have continued antibiotic
   course with finite end point.
 DELIRIUM / CONFUSION
   Respiratory Failure-Patient with combined metabolic and respiratory
   alkalosis and has had persistent metabolic alkalosis
at this point it
   may be in part attributable to gastric losses but we have been unable
   to normalize potassium/Cl with K+=3.1 this morning.
   -Would continue with PSV support
   -[**Last Name (un) 1464**] [**Doctor Last Name 1465**] pattern likely to continue and will be worsened in a
   small way with metabolic alkalosis.
   Metabolic Alkalosis
   -Correct metabolic alkalosis with KCl today
   -Diamox x 48 hours total
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
   -LOpressor and move to Carvedilol when po
s tolerated
   -Would suggest diuresis limitation until significant metabolic
   alkalosis has trended to improvement.
   Gastroparesis-
   Reglan
   Not obviously obstructed
   Ileus persists
   G-tube to gravity
   Retrial po intake with Erythromycin to promote motility
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2174-9-6**] 12:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45 minutes

2174-09-12 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 104.4
C - [**2174-9-12**] 03:00 AM
   -TTKG 12.7, consistant with renal losses of K
   -Pt had chenyes [**Doctor Last Name **] respirations, RR in 40s, ABG 7.6/27/144.
   Switched from PS to CMV but taking too many breaths, so switched to
   trach mask but became ashen., switched back to CMV and gave sedation to
   depress RR.  Repeat ABG 7.48/34/47, lactate 3
   -HR 110s to 170s throughout night, poorly responsive to lopressor, and
   IV dig, but responds well to dilt IV 5mg bolus, consider dilt gtt
   today.
   -SBP down to 70s, poorly responsive to fluids, +4.5L i/o yesterday
   - attempted A-line without success
   - K trend 3.8, 3.9, 4.7,
   -repeat ABG 7.39/47/153, lactate 2.2
   -plant to tolerate MAPS in 50s and if HR increase give IV dilt. IF
   hypotensive, start levophed.  Need to adress central line placement
   today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-9-10**] 08:00 AM
   Ciprofloxacin - [**2174-9-10**] 12:00 PM
   Cefipime - [**2174-9-10**] 11:53 PM
   Metronidazole - [**2174-9-11**] 04:11 AM
   Ceftazidime - [**2174-9-11**] 09:23 PM
   Clindamycin - [**2174-9-12**] 02:45 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Metoprolol - [**2174-9-11**] 06:00 PM
   Midazolam (Versed) - [**2174-9-11**] 06:18 PM
   Fentanyl - [**2174-9-11**] 06:39 PM
   Heparin Sodium (Prophylaxis) - [**2174-9-11**] 09:24 PM
   Famotidine (Pepcid) - [**2174-9-12**] 12:27 AM
   Diltiazem - [**2174-9-12**] 03:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-9-12**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.2
C (104.4
   Tcurrent: 39.5
C (103.1
   HR: 120 (97 - 144) bpm
   BP: 156/137(110) {68/49(53) - 156/137(138)} mmHg
   RR: 18 (10 - 41) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 145.6 kg (admission): 164 kg
   Height: 70 Inch
             Total In:
                                                                  5,127 mL
                                                                  1,858 mL
   PO:
             TF:
   IVF:
                                                                  5,007 mL
                                                                  1,798 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    155 mL
   Urine:
                                                                  1,310 mL
                                                                    155 mL
   NG:
                                                                    270 mL
   Stool:
   Drains:
   Balance:
                                                                  3,547 mL
                                                                  1,703 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: SIMV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 583 (497 - 615) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 30
   PEEP: 8 cmH2O
   FiO2: 35%
   RSBI Deferred: Hemodynamic Instability
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: 7.39/47/153/26/3
   Ve: 5.2 L/min
   PaO2 / FiO2: 383
   Physical Examination
   Gen: Sedated, supine in bed, cooling blanket in place
   HEENT: Trach in place
   Chest: coarse BS bl anteriorly
   CV: Irregular, tachy
   Abd: Obese, soft
   Skn: RLE warm, LLE cool
   Ext: L PICC in place, about 10 cm of line exposed
   Labs / Radiology
   291 K/uL
   12.1 g/dL
   209 mg/dL
   2.9 mg/dL
   26 mEq/L
   4.2 mEq/L
   149 mg/dL
   101 mEq/L
   145 mEq/L
   36.7 %
   8.3 K/uL
        [image002.jpg]
                             [**2174-9-10**]  07:30 PM
                             [**2174-9-11**]  12:35 AM
                             [**2174-9-11**]  02:12 AM
                             [**2174-9-11**]  01:03 PM
                             [**2174-9-11**]  04:40 PM
                             [**2174-9-11**]  06:00 PM
                             [**2174-9-11**]  06:45 PM
                             [**2174-9-11**]  10:38 PM
                             [**2174-9-12**]  12:24 AM
                             [**2174-9-12**]  02:19 AM
   WBC
   10.1
   8.3
   Hct
   37.2
   36.7
   Plt
   262
   291
   Cr
   2.3
   2.3
   2.2
   2.3
   2.8
   2.9
   TCO2
   33
   27
   30
   30
   Glucose
   227
   231
   209
   Other labs: PT / PTT / INR:23.0/31.4/2.2, CK / CKMB /
   Troponin-T:922/3/0.13, ALT / AST:67/43, Alk Phos / T Bili:152/1.9,
   Amylase / Lipase:113/133, Differential-Neuts:85.1 %, Band:0.0 %,
   Lymph:9.6 %, Mono:4.5 %, Eos:0.4 %, Fibrinogen:932 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:3.8 g/dL, LDH:293 IU/L, Ca++:8.7 mg/dL,
   Mg++:3.1 mg/dL, PO4:9.2 mg/dL
   Assessment and Plan
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Pts failure likely multifactorial.  From an infectious standpoint,
   multi-lobar pneumonia is contributing in addition to CHF (EF 10%)
   - On Clinda for MSSA and anerobic coverage, will discuss switching to
   Nafcillin as suspicion for anerobes is low.
   - Received multiple fluid boluses overnight, will monitor pressure and
   use as necessary
   - hold on lasix
   - Continue atrovent nebs prn
   -[**9-8**] sputum, showed MSSA, therefore d/c  vanc. Had added flagyl for
   concern of aspiration pna.  As per ID switched to clindamycin  450mg IV
   q6h for MSSA and anerobe coverage.  However, clinda sensitivities were
   not listed, called lab to add on clindamycin sensitivity, will be ready
   [**9-12**].
   - d/c precautions.
   -daily CXR to monitor for aspiration PNA.
   - Urine grew Pseudomonas, continue on Ceftazidime 2gm q12h IV
   - Requiring SIMV
   - Periods of apnea, now on SIMV, required sedation to decrease RR, will
   continue to monitor
    # SHOCK
   -          Pt continues to be febrile, has + sputum cultures,
   hypotensive overnight with  rising Cr in addition to respiratory
   failure.
   -          Antibiotics for sputum MSSA and urine Pseudomonas as above
   -          CVL today to monitor CVP
   -          Arterial line today to monitor BP
   -
   #Metabolic Alkalosis- Likely [**3-5**] large volume diuresis; pH 7.55 today.
   Will aggressively give KCL today and continue Diamox; recheck lytes q6h
   (K, NA, HCO3)
   -          aggressively give KCL, goal K > 4.5
   -          presistant met alk despite stopping lasix suggests an
   additional reason.  Likely [**3-5**] GI losses ( hight PEG output)
   -          Will calculated TTKG today to confirm alk [**3-5**] GI losses
   -          TTKG 12.7, consistent with renal losses of K+ (not
   suggestive of GI loss) will consider work up for hyperadrenal state.
   -          Discuss with Renal   today
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
    Pt with severe cardiomyopathy and EF of only 10%.
    - pt not tolerating PO in setting of  ileus,  thus will give IV
   Metoprolol until PO can be resumed
    -Continue Digoxin at current dose once PO intake can be resumed
   -Changed from Metoprolol to Carvedilol per Cardiology; will restart
   when tolerating PO
   -Appears dry on exam with rising Cr and BUN; thus holding lasix for
   now, giving IVF
   -cards suggested starting heparin, will hold for now given recent
   oozing of PEG and possibility of procedures in near future.  Given 5%
   risk of event per year and limit expected pt lifespan, do not feel
   strongly on starting heparin
   -pt HR poorly responding to IV metoprolol and IVF, IV dig attempted,
   with minimal response.  Plan to use IV dilt 5 mg boluses if tachycardic
   to 150s.
   #[**Name (NI) 4087**] Pt had large bilious return from PEG tube/ET tube o/n however no
   residuals from G tube per nursing; concern for gastroparesis vs SBO vs
   ileus
    -CT consistent with ileus
   - G-tube to gravity and avoid TF or meds via PEG until residuals are
   (<150cc/8hrs) and non-bilioius as per surgery
   - no residuals overnight
   - Will follow up with surgery reccomendations regarding TF/Meds
   - added lactulose enema to bowel regimen
   -added erythromycin 250mg PO q6h in attempt to resolve ileus- readdress
   after seen by surgery today, d/c if possible
   - monitor PEG residuals.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- Now stable; likely
   pre-renal and intravascularly dry [**3-5**] intense diuresis. FeNa suggestive
   of pre-renal etiology previously.  Now concerning for increased Cr.
   -Hold lasix
   -Postitive 3 L yesterday given calculated free water deficit yesterday
   of 5.6 L, IVF as needed
   -Giving D5W at 150/hr
   -check pm sodium
   -Renally dose meds
   - discuss possiblility of dialysis (long term) with family today ([**9-10**])
 DELIRIUM / CONFUSION
    -Zyprexa
 ATRIAL FIBRILLATION (AFIB)
    -Cardiology consulted; transitioned from metoprolol to carvedilol
   however unable to receive given NPO and PEG tube issues; will use IV
   Lopressor for now
   -Continue dig when able to give PO
   -No anti-coagulation for now given oozing from peg site previously
   #COAGULOPATHY - possible sources since the last coumadin was given on
   [**8-24**] include hepatic and nutritional.  Hepatic possible given poor CO
   and episodic hypotension, however would expect higher LFTs if cause was
   ischemia. Of note LFT are elevated. Nutrition possible since no Vit K
   in tube feeds but near normal alb. a source could be levaquin, as this
   effects coumadin metabolism. DIC unlikely since platelets are rising.
   -Holding heparin
   -INR up to 2.2,  DDAVP today, will give 1 unit FFP prior to attempting
   CVL
   ICU Care
    Nutrition: NPO,  holding tube feeds pending recs from surgery
   Glycemic Control:  Insulin SS, raised standing NPH to 12U q12H
   Lines:
   PICC Line - [**2174-9-6**] 12:20 PM, will likely place CVL and Arterial
   line today
   Prophylaxis:
   DVT: Pneumoboots, Heparin SC
   Stress ulcer:  Famotidine
   VAP:
   Comments:
   Communication:  Comments:  Family aware patient is very ill, will have
   discussion today regarding severity of illness and addressing goals of
   care.
   Code status: Full code
   Disposition: ICU
   Code status: Full code
   Disposition:

2174-09-13 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2174-9-12**] 12:07 PM
 STOOL CULTURE - At [**2174-9-12**] 01:07 PM
 ARTERIAL LINE - START [**2174-9-12**] 01:08 PM: Left arterial line [**9-12**]
 MULTI LUMEN - START [**2174-9-12**] 04:39 PM Left subclavian [**9-12**]
 FEVER - 103.5
C - [**2174-9-12**] 10:00 PM
   Family meeting: DNR, want to use pressors and pursue dialysis if
   necessary
   Had high residuals, held tube feeds.  Episode of small amount of bright
   red blood with check of residuals
   Dc/d Clinda, started Nafcillin- need to follow up cx, change coverage
   if anerobes
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-9-10**] 08:00 AM
   Ciprofloxacin - [**2174-9-10**] 12:00 PM
   Cefipime - [**2174-9-10**] 11:53 PM
   Metronidazole - [**2174-9-11**] 04:11 AM
   Clindamycin - [**2174-9-12**] 02:22 PM
   Ceftazidime - [**2174-9-12**] 09:00 PM
   Nafcillin - [**2174-9-13**] 06:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Metoprolol - [**2174-9-12**] 09:30 PM
   Famotidine (Pepcid) - [**2174-9-13**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2174-9-13**] 04:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-9-13**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.5
   Tcurrent: 38.4
C (101.1
   HR: 100 (100 - 136) bpm
   BP: 92/60(70) {85/58(68) - 110/73(84)} mmHg
   RR: 21 (14 - 36) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 145.6 kg (admission): 164 kg
   Height: 70 Inch
    CVP: 18 (16 - 19)mmHg
   Total In:
                                                                  3,364 mL
                                                                    479 mL
   PO:
   TF:
                                                                      3 mL
   IVF:
                                                                  2,818 mL
                                                                    407 mL
   Blood products:
                                                                    266 mL
   Total out:
                                                                  2,590 mL
                                                                    180 mL
   Urine:
                                                                    740 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    774 mL
                                                                    299 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 511 (252 - 511) mL
   PS : 0 cmH2O
   RR (Set): 6
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 60
   RSBI Deferred: Hemodynamic Instability
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.44/37/158/24/1
   Ve: 6.7 L/min
   PaO2 / FiO2: 395
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   209 K/uL
   11.3 g/dL
   139 mg/dL
   3.1 mg/dL
   24 mEq/L
   3.2 mEq/L
   163 mg/dL
   101 mEq/L
   143 mEq/L
   33.7 %
   6.8 K/uL
        [image002.jpg]
                             [**2174-9-11**]  06:00 PM
                             [**2174-9-11**]  06:45 PM
                             [**2174-9-11**]  10:38 PM
                             [**2174-9-12**]  12:24 AM
                             [**2174-9-12**]  02:19 AM
                             [**2174-9-12**]  01:26 PM
                             [**2174-9-12**]  02:35 PM
                             [**2174-9-12**]  08:21 PM
                             [**2174-9-13**]  03:21 AM
                             [**2174-9-13**]  03:37 AM
   WBC
   8.3
   7.5
   6.8
   Hct
   36.7
   34.5
   33.7
   Plt
   291
   263
   209
   Cr
   2.3
   2.8
   2.9
   2.8
   3.1
   TCO2
   30
   30
   26
   27
   26
   Glucose
   [**Telephone/Fax (3) 4191**]
   Other labs: PT / PTT / INR:26.4/35.2/2.6, CK / CKMB /
   Troponin-T:922/3/0.13, ALT / AST:38/27, Alk Phos / T Bili:71/1.5,
   Amylase / Lipase:84/58, Differential-Neuts:77.0 %, Band:0.0 %,
   Lymph:14.3 %, Mono:7.9 %, Eos:0.5 %, Fibrinogen:932 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:3.8 g/dL, LDH:315 IU/L, Ca++:8.2 mg/dL,
   Mg++:3.0 mg/dL, PO4:9.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Pts failure likely multifactorial.  From an infectious standpoint,
   multi-lobar pneumonia is contributing in addition to CHF (EF 10%)
   - On Clinda for MSSA and anerobic coverage, will discuss switching to
   Nafcillin as suspicion for anerobes is low.
   - Received multiple fluid boluses overnight, will monitor pressure and
   use as necessary
   - hold on lasix
   - Continue atrovent nebs prn
   -[**9-8**] sputum, showed MSSA, therefore d/c  vanc. Had added flagyl for
   concern of aspiration pna.  As per ID switched to clindamycin  450mg IV
   q6h for MSSA and anerobe coverage.  However, clinda sensitivities were
   not listed, called lab to add on clindamycin sensitivity, will be ready
   [**9-12**].
   - d/c precautions.
   -daily CXR to monitor for aspiration PNA.
   - Urine grew Pseudomonas, continue on Ceftazidime 2gm q12h IV
   - Requiring SIMV
   - Periods of apnea, now on SIMV, required sedation to decrease RR, will
   continue to monitor
    # SHOCK
   -          Pt continues to be febrile, has + sputum cultures,
   hypotensive overnight with  rising Cr in addition to respiratory
   failure.
   -          Antibiotics for sputum MSSA and urine Pseudomonas as above
   -          CVL today to monitor CVP
   -          Arterial line today to monitor BP
   -
   #Metabolic Alkalosis- Likely [**3-5**] large volume diuresis; pH 7.55 today.
   Will aggressively give KCL today and continue Diamox; recheck lytes q6h
   (K, NA, HCO3)
   -          aggressively give KCL, goal K > 4.5
   -          presistant met alk despite stopping lasix suggests an
   additional reason.  Likely [**3-5**] GI losses ( hight PEG output)
   -          Will calculated TTKG today to confirm alk [**3-5**] GI losses
   -          TTKG 12.7, consistent with renal losses of K+ (not
   suggestive of GI loss) will consider work up for hyperadrenal state.
   -          Discuss with Renal   today
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
    Pt with severe cardiomyopathy and EF of only 10%.
    - pt not tolerating PO in setting of  ileus,  thus will give IV
   Metoprolol until PO can be resumed
    -Continue Digoxin at current dose once PO intake can be resumed
   -Changed from Metoprolol to Carvedilol per Cardiology; will restart
   when tolerating PO
   -Appears dry on exam with rising Cr and BUN; thus holding lasix for
   now, giving IVF
   -cards suggested starting heparin, will hold for now given recent
   oozing of PEG and possibility of procedures in near future.  Given 5%
   risk of event per year and limit expected pt lifespan, do not feel
   strongly on starting heparin
   -pt HR poorly responding to IV metoprolol and IVF, IV dig attempted,
   with minimal response.  Plan to use IV dilt 5 mg boluses if tachycardic
   to 150s.
   #[**Name (NI) 4087**] Pt had large bilious return from PEG tube/ET tube o/n however no
   residuals from G tube per nursing; concern for gastroparesis vs SBO vs
   ileus
    -CT consistent with ileus
   - G-tube to gravity and avoid TF or meds via PEG until residuals are
   (<150cc/8hrs) and non-bilioius as per surgery
   - no residuals overnight
   - Will follow up with surgery reccomendations regarding TF/Meds
   - added lactulose enema to bowel regimen
   -added erythromycin 250mg PO q6h in attempt to resolve ileus- readdress
   after seen by surgery today, d/c if possible
   - monitor PEG residuals.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- Now stable; likely
   pre-renal and intravascularly dry [**3-5**] intense diuresis. FeNa suggestive
   of pre-renal etiology previously.  Now concerning for increased Cr.
   -Hold lasix
   -Postitive 3 L yesterday given calculated free water deficit yesterday
   of 5.6 L, IVF as needed
   -Giving D5W at 150/hr
   -check pm sodium
   -Renally dose meds
   - discuss possiblility of dialysis (long term) with family today ([**9-10**])
 DELIRIUM / CONFUSION
    -Zyprexa
 ATRIAL FIBRILLATION (AFIB)
    -Cardiology consulted; transitioned from metoprolol to carvedilol
   however unable to receive given NPO and PEG tube issues; will use IV
   Lopressor for now
   -Continue dig when able to give PO
   -No anti-coagulation for now given oozing from peg site previously
   #COAGULOPATHY - possible sources since the last coumadin was given on
   [**8-24**] include hepatic and nutritional.  Hepatic possible given poor CO
   and episodic hypotension, however would expect higher LFTs if cause was
   ischemia. Of note LFT are elevated. Nutrition possible since no Vit K
   in tube feeds but near normal alb. a source could be levaquin, as this
   effects coumadin metabolism. DIC unlikely since platelets are rising.
   -Holding heparin
   -INR up to 2.2,  DDAVP today, will give 1 unit FFP prior to attempting
   CVL
   ICU Care
    Nutrition: NPO,  holding tube feeds pending recs from surgery
   Glycemic Control:  Insulin SS, raised standing NPH to 12U q12H
   Lines:
   PICC Line - [**2174-9-6**] 12:20 PM, will likely place CVL and Arterial
   line today
   Prophylaxis:
   DVT: Pneumoboots, Heparin SC
   Stress ulcer:  Famotidine
   VAP:
   Comments:
   Communication:  Comments:  Family aware patient is very ill, will have
   discussion today regarding severity of illness and addressing goals of
   care.
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2174-9-13**] 06:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2174-9-6**] 12:20 PM
   20 Gauge - [**2174-9-11**] 05:58 PM
   Arterial Line - [**2174-9-12**] 01:08 PM
   Multi Lumen - [**2174-9-12**] 04:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2174-09-13 14:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2174-9-12**] 12:07 PM
 STOOL CULTURE - At [**2174-9-12**] 01:07 PM
 ARTERIAL LINE - START [**2174-9-12**] 01:08 PM
 MULTI LUMEN - START [**2174-9-12**] 04:39 PM
 FEVER - 103.5
C - [**2174-9-12**] 10:00 PM
   Family meeting yesterday. Patient's family wants him DNR but want to
   pursue dialysis and pressors if necessary.
   Had high residuals and tube feeds were held. Had episode of BRB with
   check of residuals.
   D/C'd clinda, started nafcillin, need to follow up cultures and change
   coverage if anaerobes.
   Renal will come by at some point today to assess need for HD and
   possible cause of recurrent ARF.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2174-9-10**] 11:53 PM
   Metronidazole - [**2174-9-11**] 04:11 AM
   Clindamycin - [**2174-9-12**] 02:22 PM
   Ceftazidime - [**2174-9-13**] 09:09 AM
   Nafcillin - [**2174-9-13**] 10:11 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Metoprolol - [**2174-9-12**] 09:30 PM
   Famotidine (Pepcid) - [**2174-9-13**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2174-9-13**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-9-13**] 02:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.5
   Tcurrent: 37.5
C (99.5
   HR: 90 (86 - 133) bpm
   BP: 97/60(69) {81/53(60) - 110/73(84)} mmHg
   RR: 25 (13 - 36) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 144.7 kg (admission): 164 kg
   Height: 70 Inch
    CVP: 16 (13 - 19)mmHg
   Mixed Venous O2% Sat: 68 - 68
   Total In:
                                                                  3,364 mL
                                                                  2,131 mL
   PO:
   TF:
                                                                    109 mL
   IVF:
                                                                  2,818 mL
                                                                  1,862 mL
   Blood products:
                                                                    266 mL
   Total out:
                                                                  2,590 mL
                                                                    522 mL
   Urine:
                                                                    740 mL
                                                                    522 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    774 mL
                                                                  1,609 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 475 (294 - 511) mL
   PS : 10 cmH2O
   RR (Set): 6
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   SpO2: 97%
   ABG: 7.44/31/190/21/-1
   Ve: 8.5 L/min
   PaO2 / FiO2: 475
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   209 K/uL
   11.3 g/dL
   154 mg/dL
   3.4 mg/dL
   21 mEq/L
   3.3 mEq/L
   165 mg/dL
   102 mEq/L
   144 mEq/L
   33.7 %
   6.8 K/uL
        [image002.jpg]
                             [**2174-9-11**]  10:38 PM
                             [**2174-9-12**]  12:24 AM
                             [**2174-9-12**]  02:19 AM
                             [**2174-9-12**]  01:26 PM
                             [**2174-9-12**]  02:35 PM
                             [**2174-9-12**]  08:21 PM
                             [**2174-9-13**]  03:21 AM
                             [**2174-9-13**]  03:37 AM
                             [**2174-9-13**]  12:07 PM
                             [**2174-9-13**]  12:35 PM
   WBC
   8.3
   7.5
   6.8
   Hct
   36.7
   34.5
   33.7
   Plt
   291
   263
   209
   Cr
   2.8
   2.9
   2.8
   3.1
   3.4
   TCO2
   30
   26
   27
   26
   22
   Glucose
   [**Telephone/Fax (3) 4217**]54
   Other labs: PT / PTT / INR:26.4/35.2/2.6, CK / CKMB /
   Troponin-T:922/3/0.13, ALT / AST:38/27, Alk Phos / T Bili:71/1.5,
   Amylase / Lipase:84/58, Differential-Neuts:77.0 %, Band:0.0 %,
   Lymph:14.3 %, Mono:7.9 %, Eos:0.5 %, Fibrinogen:932 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:3.8 g/dL, LDH:315 IU/L, Ca++:8.2 mg/dL,
   Mg++:3.0 mg/dL, PO4:9.2 mg/dL
   Assessment and Plan
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Pts failure likely multifactorial.  From an infectious standpoint,
   multi-lobar pneumonia is contributing in addition to CHF (EF 10%)
   - Continue atrovent nebs prn
   -[**9-8**] sputum, showed MSSA, therefore d/c  vanc. Had added flagyl for
   concern of aspiration pna.  As per ID switched to clindamycin  450mg IV
   q6h for MSSA and anerobe coverage.  However, clinda sensitivities were
   not listed, called lab to add on clindamycin sensitivity, will be ready
   [**9-12**]. Switched from clinda to nafcillin yesterday ([**9-12**]). Will renally
   dose nafcillin.
   -daily CXR to monitor for aspiration PNA.
   - Requiring SIMV but will try on CPAP and see how he does
 will check
   ABG
 as may have element of restrictive lung disease given body
   habitus. Will also sit him upright to see if this helps his
   ventilation.
   - Periods of apnea, now on SIMV, required sedation to decrease RR, will
   continue to monitor
    # SHOCK
   -          Pt continues to be febrile, has + sputum cultures,
   hypotensive overnight with rising Cr in addition to respiratory failure
   and in the setting of CVP of 18.
   - Likely septic shock as well as cardiac shock although do not have a
   good gage of [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 4218**].
   - Will check mixed venous O2. If <60% will consider cardiac shock more
   likely. >70% sepsis would be more likely.
   - Urine grew Pseudomonas, continue on Ceftazidime 2gm q12h IV
   -          Antibiotics for sputum MSSA and urine Pseudomonas as above
   -          CVL placed [**2174-9-12**].
   -          Arterial line today to monitor BP
   -          Will give 1L fluid bolus and see how BP and UOP respond.
   Would like to avoid pressors if possible. As he is very pre-load
   dependent especially on the vent will try to keep CVP on higher side to
   try to keep up his UOP and BP.
   #Metabolic Alkalosis- Likely [**3-5**] large volume diuresis; pH 7.55 today.
   Will aggressively give KCL today and continue Diamox; recheck lytes q6h
   (K, NA, HCO3)
   -          aggressively give KCL, goal K > 4.5
   -          presistant met alk despite stopping lasix suggests an
   additional reason.  Likely [**3-5**] GI losses ( hight PEG output)
   -          Will calculated TTKG today to confirm alk [**3-5**] GI losses
   -          TTKG 12.7, consistent with renal losses of K+ (not
   suggestive of GI loss) will consider work up for hyperadrenal state.
   -          Discuss with Renal   today
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
    Pt with severe cardiomyopathy and EF of only 10%.
    - pt not tolerating PO in setting of  ileus,  thus will give IV
   Metoprolol until PO can be resumed
    -Continue Digoxin at current dose once PO intake can be resumed
   -Changed from Metoprolol to Carvedilol per Cardiology; will restart
   when tolerating PO
   -Appears dry on exam with rising Cr and BUN; thus holding lasix for
   now, giving IVF
   -cards suggested starting heparin, will hold for now given recent
   oozing of PEG and possibility of procedures in near future.  Given 5%
   risk of event per year and limit expected pt lifespan, do not feel
   strongly on starting heparin
   -pt HR poorly responding to IV metoprolol and IVF, IV dig attempted,
   with minimal response.  Plan to use IV dilt 5 mg boluses if tachycardic
   to 150s.
   #[**Name (NI) 4087**] Pt had large bilious return from PEG tube/ET tube o/n however no
   residuals from G tube per nursing; concern for gastroparesis vs SBO vs
   ileus
    -CT consistent with ileus
   - G-tube to gravity and avoid TF or meds via PEG until residuals are
   (<150cc/8hrs) and non-bilioius as per surgery
   - no residuals overnight
   - Will follow up with surgery reccomendations regarding TF/Meds
   - added lactulose enema to bowel regimen
   -added erythromycin 250mg PO q6h in attempt to resolve ileus- readdress
   after seen by surgery today, d/c if possible
   - monitor PEG residuals.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- Now stable; likely
   pre-renal and intravascularly dry [**3-5**] intense diuresis. FeNa suggestive
   of pre-renal etiology previously.  Now concerning for increased Cr.
   -Hold lasix
   -Postitive 3 L yesterday given calculated free water deficit yesterday
   of 5.6 L, IVF as needed
   -Giving D5W at 150/hr
   -check pm sodium
   -Renally dose meds
   - discuss possiblility of dialysis (long term) with family today ([**9-10**])
 DELIRIUM / CONFUSION
    -Zyprexa
 ATRIAL FIBRILLATION (AFIB)
    -Cardiology consulted; transitioned from metoprolol to carvedilol
   however unable to receive given NPO and PEG tube issues; will use IV
   Lopressor for now
   -Continue dig when able to give PO
   -No anti-coagulation for now given oozing from peg site previously
   #COAGULOPATHY - possible sources since the last coumadin was given on
   [**8-24**] include hepatic and nutritional.  Hepatic possible given poor CO
   and episodic hypotension, however would expect higher LFTs if cause was
   ischemia. Of note LFT are elevated. Nutrition possible since no Vit K
   in tube feeds but near normal alb. a source could be levaquin, as this
   effects coumadin metabolism. DIC unlikely since platelets are rising.
   -Holding heparin
   -INR up to 2.2,  DDAVP today, will give 1 unit FFP prior to attempting
   CVL
   ICU Care
    Nutrition: NPO,  holding tube feeds pending recs from surgery
   Glycemic Control:  Insulin SS, raised standing NPH to 12U q12H
   Lines:
   PICC Line - [**2174-9-6**] 12:20 PM, will likely place CVL and Arterial
   line today
   Prophylaxis:
   DVT: Pneumoboots, Heparin SC
   Stress ulcer:  Famotidine
   VAP:
   Comments:
   Communication:  Comments:  Family aware patient is very ill, will have
   discussion today regarding severity of illness and addressing goals of
   care.
   Code status: Full code
   Disposition: ICU
   Code status: DNR (do not resuscitate)
   Disposition:
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-9-13**] 12:56 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2174-9-6**] 12:20 PM
   20 Gauge - [**2174-9-11**] 05:58 PM
   Arterial Line - [**2174-9-12**] 01:08 PM
   Multi Lumen - [**2174-9-12**] 04:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2174-09-14 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.6
C - [**2174-9-14**] 03:00 AM
   Cultures:
    - Sputum: Ecoli sensitive to ceftaz and coag positive staph sensitive
   to oxacillin
   Tried on CPAP and then off vent. ABGs 7.44/31/190 on CPAP and then
   7.48/25/165 off the vent with a respiratory rate of 34. Was put back on
   vent. Initially on 600/24/10/40 with minute ventilation @15 and seemed
   more comfortable with less sedation requirements. ABG 7.43/29/203.
   Decreased tidal volume and peep. Repeat abg 7.41/31/169
   ID consulted. Suggested starting empiric flagyl for ? Cdiff. Started
   500mg TID.
   ID also said Ceftazidime 1gm Q12H ok so changed from 2gm.
   Renal consult re:decreased UOP and inc Cr. U/A with many WBCs. Started
   phoslo TID per their recs. Renally dosed all meds. Felt likely [**3-5**] poor
   perfusion from sepsis and CHf.
   Was given Vit K 10mg X 3 days for inc INR. Second dose today.
   TF were changed to nutren renal at 45ml/hour per nutrition's recs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2174-9-12**] 02:22 PM
   Ceftazidime - [**2174-9-13**] 09:09 AM
   Nafcillin - [**2174-9-14**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2174-9-13**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2174-9-13**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-9-14**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.9
C (102
   HR: 104 (86 - 137) bpm
   BP: 102/64(74) {81/53(60) - 119/71(84)} mmHg
   RR: 23 (13 - 39) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 144.7 kg (admission): 164 kg
   Height: 70 Inch
    CVP: 17 (13 - 20)mmHg
   Mixed Venous O2% Sat: 68 - 68
   Total In:
                                                                  3,443 mL
                                                                    562 mL
   PO:
   TF:
                                                                    344 mL
                                                                    196 mL
   IVF:
                                                                  2,868 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                  2,152 mL
                                                                  1,490 mL
   Urine:
                                                                  1,202 mL
                                                                    590 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                  1,291 mL
                                                                   -928 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (500 - 600) mL
   Vt (Spontaneous): 475 (475 - 475) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.41/31/169/18/-3
   Ve: 14 L/min
   PaO2 / FiO2: 422
   Physical Examination
   Gen: Supine, sedated
   HEENT: trach in place, eyes closed
   Chest: CTAB anteriorly, no wheezes/ronchi, L subclavian in place
   CV: Tachy, irregular, distant, no murmur
   Abd: Obese, soft, PEG site dressing in place
   Ext: trace edema
   Skin: warm, no rash
   Neuro/psych: sedated, unresponsive to voice
   Labs / Radiology
   276 K/uL
   11.5 g/dL
   146 mg/dL
   3.2 mg/dL
   18 mEq/L
   3.5 mEq/L
   175 mg/dL
   106 mEq/L
   144 mEq/L
   35.3 %
   10.3 K/uL
        [image002.jpg]
                             [**2174-9-12**]  02:35 PM
                             [**2174-9-12**]  08:21 PM
                             [**2174-9-13**]  03:21 AM
                             [**2174-9-13**]  03:37 AM
                             [**2174-9-13**]  12:07 PM
                             [**2174-9-13**]  12:35 PM
                             [**2174-9-13**]  05:02 PM
                             [**2174-9-13**]  10:45 PM
                             [**2174-9-14**]  02:09 AM
                             [**2174-9-14**]  02:58 AM
   WBC
   7.5
   6.8
   10.3
   Hct
   34.5
   33.7
   35.3
   Plt
   263
   209
   276
   Cr
   2.8
   3.1
   3.4
   3.2
   TCO2
   27
   26
   22
   19
   20
   20
   Glucose
   124
   139
   154
   146
   Other labs: PT / PTT / INR:20.3/27.9/1.9, CK / CKMB /
   Troponin-T:922/3/0.13, ALT / AST:26/22, Alk Phos / T Bili:74/0.9,
   Amylase / Lipase:84/58, Differential-Neuts:77.0 %, Band:0.0 %,
   Lymph:14.3 %, Mono:7.9 %, Eos:0.5 %, Fibrinogen:932 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:3.2 g/dL, LDH:315 IU/L, Ca++:8.3 mg/dL,
   Mg++:3.3 mg/dL, PO4:9.6 mg/dL
   [**9-14**] Source: Catheter
   Color
   Yellow
   Appear
   Hazy
   SpecGr
   1.015
   pH
   6.0
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Sm
   Bld
   Mod
   Nitr
   Neg
   Prot
   100
   Glu
   Tr
   Ket
   Neg
   RBC
   5
   WBC
   126
   Bact
   Mod
   Yeast
   None
   Epi
   0
   Other Urine Counts
   Eos: Negative No Eos Seen
[**2174-9-13**] 12:11 pm URINE      Source: Catheter.
   URINE CULTURE (Pending):
[**2174-9-12**] 12:07 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool.
                            **FINAL REPORT [**2174-9-13**]**
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2174-9-13**]):
      Feces negative for C.difficile toxin A & B by EIA.
           (Reference Range-Negative).
[**2174-9-10**] 1:47 pm SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
                            **FINAL REPORT [**2174-9-12**]**
   GRAM STAIN (Final [**2174-9-10**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      SMEAR REVIEWED; RESULTS CONFIRMED.
   RESPIRATORY CULTURE (Final [**2174-9-12**]):
      MODERATE GROWTH OROPHARYNGEAL FLORA.
      STAPH AUREUS COAG +.    MODERATE GROWTH.
         SENSITIVITIES PERFORMED ON CULTURE # [**Numeric Identifier 4255**],[**2174-9-8**].
      ESCHERICHIA COLI.    MODERATE GROWTH.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             ESCHERICHIA COLI
                             |
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CEFUROXIME------------     4 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R
[**2174-9-10**] 1:44 pm BLOOD CULTURE      Source: Venipuncture #2.
   Blood Culture, Routine (Pending):
   Assessment and Plan
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Pts failure likely multifactorial.  From an infectious standpoint,
   multi-lobar pneumonia is contributing in addition to CHF (EF 10%)
   - Continue atrovent nebs prn
   -[**9-8**] sputum, showed MSSA, therefore d/c vanc. Had added flagyl for
   concern of aspiration pna.  As per ID switched to clindamycin  450mg IV
   q6h for MSSA and anerobe coverage.  However, clinda sensitivities were
   not listed, called lab to add on clindamycin sensitivity, will be ready
   [**9-12**]. Switched from clinda to nafcillin yesterday ([**9-12**]). Will renally
   dose nafcillin.
   - C.diff negative, will d/c Flagyl per ID
   -daily CXR to monitor for aspiration PNA.
   - Tried on trach mask [**9-13**], rapidly became tachypnic to 40s, placed
   back on vent.  Was still hyperventilating on AC (7.41/31/169).  This
   morning will try PSV with PEEP of 8 and
    # SHOCK
   -         Pt continues to be febrile, has + sputum cultures,
   hypotensive overnight with elevated Cr in addition to respiratory
   failure and CVP 23.
   - Likely septic shock as well as cardiac shock although do not have a
   good gauge of [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 4218**].
   - Mixed venous O2 [**9-13**]. If <60% will consider cardiac shock more
   likely. >70% sepsis would be more likely.- resulted at 68%, so does not
   clarify picture
   - Urine grew Pseudomonas, continue on Ceftazidime 2gm q12h IV
   -          Antibiotics for sputum MSSA and urine Pseudomonas as above
   -          CVL placed [**2174-9-12**].
   -          Arterial line [**9-12**] to monitor BP
   -          CVP 23 on [**9-14**], UOP around 100 mL/hr
   -          Continue Ceftaz
   -          Continue Nafcillin
   -          D/c
d Flagyl as above
   -          Cultures re-sent, will f/u results
   -          Tylenol 650 q6 prn fever, UOP seems to have improved with
   decreased temp
   -          Keep CVPs in 20s with fluid as needed, monitor UOP
   #Metabolic Alkalosis- Likely [**3-5**] large volume diuresis; pH 7.41 this
   morning.
   -          aggressively give KCL, goal K > 4.5
   -          TTKG previously 12.7, consistent with renal losses of K+
   (not suggestive of GI loss) will consider work up for hyperadrenal
   state.
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
    Pt with severe cardiomyopathy and EF of only 10%.
   - Pt has been hypotensive and therefore not receiving his coreg or
   metoprolol. Metoprolol d/c
   -  Continue with coreg
   - Continue Digoxin
   - cards suggested starting heparin, will hold for now given recent
   oozing of PEG and possibility of procedures in near future.  Given 5%
   risk of event per year and limit expected pt lifespan, do not feel
   strongly on starting heparin
   - UOP
    -Holding Lasix given increased BUN/Cr
   #[**Name (NI) 4087**] Pt previously had high residuals, residuals overnight were <10
   cc.  Pt stooling.
   - CT consistent with ileus, now apparently resolved
   - added lactulose enema to bowel regimen
   - finished erythromycin
   - d/c Reglan
   - monitor PEG residuals.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- Now stable; likely
   pre-renal and intravascularly dry [**3-5**] intense diuresis. FeNa suggestive
   of pre-renal etiology at <1%.  Now concerning for increased Cr.
   - Cr decreased slightly overnight
   - UOP increased following decreased temp and increased CVPs
   -Holding lasix
   -Will continue to bolus as necessary
   -Renally dose meds
   - Fena 1.5%, no urine eos, 4 hyaline casts
 ATRIAL FIBRILLATION (AFIB)
    - HR now in 100s likely [**3-5**] hypovolemia in addition to Afib. Will see
   if responds to fluids.
    -Cardiology consulted; transitioned from metoprolol to carvedilol
   - Continue carvedilol
   - Continue dig
   - No anti-coagulation for now given oozing from peg site previously and
   coagulopathy
   #COAGULOPATHY - possible sources since the last coumadin was given on
   [**8-24**] include hepatic and nutritional.  Hepatic possible given poor CO
   and episodic hypotension, however would expect higher LFTs if cause was
   ischemia. Of note LFTs are no longer elevated but PTT/INR remain
   elevated. Nutrition possible since no Vit K in tube feeds but near
   normal alb. a source could be levaquin, as this effects coumadin
   metabolism. DIC unlikely since platelets are rising, fibrinogen high,
   and haptoglobin low.
   - Got DDAVP [**2174-9-12**] and 1unit FFP as well
   -Holding heparin
   - INR 1.9 today down from 2.6 on [**9-13**]
   - Vit K 10mg QD for 3 days first dose today
   ICU Care
   -Nutrition: NPO,  Nutren renal with 40g beneprotein @ 45mL/hour. Will
   change back if gets HD to remove protein.
   Glycemic Control:  Insulin SS, raised standing NPH to 12U q12H
   -Lines:
   PICC Line - [**2174-9-6**] 12:20 PM, subclavian CVL [**2174-9-12**], Arterial line
   [**2174-9-12**]
   -Prophylaxis:
   DVT: Pneumoboots, Heparin SC
   Stress ulcer:  Famotidine
   VAP:
   -Communication:  Comments:  Family aware patient is very ill.
   -Code status: DNR (no CPR, no shocks). Will take pressors, intubation
   and HD.
   -Disposition: ICU

2174-09-15 06:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 102.0
C - [**2174-9-14**] 09:00 AM
   Increasing work of breathing, A/C break given per respiratory
   suggestion
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2174-9-14**] 09:16 PM
   Nafcillin - [**2174-9-14**] 10:30 PM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2174-9-14**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2174-9-15**] 04:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-9-15**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.3
C (100.9
   HR: 92 (81 - 119) bpm
   BP: 100/57(69) {100/57(69) - 117/73(84)} mmHg
   RR: 28 (21 - 38) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 144.8 kg (admission): 164 kg
   Height: 70 Inch
    CVP: 18 (7 - 23)mmHg
   Total In:
                                                                  2,629 mL
                                                                    939 mL
   PO:
   TF:
                                                                    968 mL
                                                                    270 mL
   IVF:
                                                                  1,386 mL
                                                                    209 mL
   Blood products:
   Total out:
                                                                  4,740 mL
                                                                  1,040 mL
   Urine:
                                                                  3,540 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,111 mL
                                                                   -101 mL
   Respiratory support
   O2 Delivery Device: Trach mask , T-piece
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 566 (449 - 566) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 108
   PIP: 17 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.45/32/190/25/0
   Ve: 15.6 L/min
   PaO2 / FiO2: 475
   Physical Examination
   Gen: Sedated, supine
   HEENT: Trach in place, eyes closed, oral mucous membranes moist
   Chest: Distant breath sounds, clear bl
   CV: distant heart sounds, nl S1S2, + SEM
   Abd: obese, soft, NT,. PEG site clean and non-erythematous
   Ext: no edema
   Skin: Warm and dry
   Labs / Radiology
   259 K/uL
   11.1 g/dL
   173 mg/dL
   1.9 mg/dL
   25 mEq/L
   2.5 mEq/L
   153 mg/dL
   112 mEq/L
   153 mEq/L
   34.2 %
   10.7 K/uL
        [image002.jpg]
                             [**2174-9-13**]  03:37 AM
                             [**2174-9-13**]  12:07 PM
                             [**2174-9-13**]  12:35 PM
                             [**2174-9-13**]  05:02 PM
                             [**2174-9-13**]  10:45 PM
                             [**2174-9-14**]  02:09 AM
                             [**2174-9-14**]  02:58 AM
                             [**2174-9-14**]  04:57 PM
                             [**2174-9-15**]  02:45 AM
                             [**2174-9-15**]  03:03 AM
   WBC
   10.3
   10.7
   Hct
   35.3
   34.2
   Plt
   276
   259
   Cr
   3.4
   3.2
   1.9
   TCO2
   26
   22
   19
   20
   20
   23
   23
   Glucose
   154
   146
   173
   Other labs: PT / PTT / INR:15.3/29.3/1.4, CK / CKMB /
   Troponin-T:922/3/0.13, ALT / AST:21/18, Alk Phos / T Bili:74/0.7,
   Amylase / Lipase:84/58, Differential-Neuts:77.0 %, Band:0.0 %,
   Lymph:14.3 %, Mono:7.9 %, Eos:0.5 %, Fibrinogen:932 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:3.2 g/dL, LDH:315 IU/L, Ca++:9.0 mg/dL,
   Mg++:3.4 mg/dL, PO4:5.3 mg/dL
   [**9-14**] blood, stool, urine cx pending
   Imaging: CXR [**9-15**]: Increased opacitiy in lung fields per my read,
   awaiting official read by radiology
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
    Pts failure likely multifactorial.  From an infectious standpoint,
   multi-lobar pneumonia is contributing in addition to CHF (EF 10%)
   - Continue atrovent nebs prn
   -[**9-8**] sputum, showed MSSA, therefore d/c vanc. Had added flagyl for
   concern of aspiration pna.  As per ID switched to clindamycin  450mg IV
   q6h for MSSA and anerobe coverage.  However, clinda sensitivities were
   not listed, called lab to add on clindamycin sensitivity, will be ready
   [**9-12**]. Switched from clinda to nafcillin yesterday ([**9-12**]). Will renally
   dose nafcillin.
   -daily CXR to monitor for aspiration PNA.
   - Pt tolerated PSV w/ [**9-9**] overnight, required brief rest on AC this
   morning.  Will continue on PSV.
    # SHOCK
   -         Pt continues to be febrile, has + sputum cultures,
   hypotensive overnight with elevated Cr in addition to respiratory
   failure and CVP 23.
   - Likely septic shock as well as cardiac shock although do not have a
   good gauge of [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 4218**].
   - Mixed venous O2 [**9-13**]. If <60% will consider cardiac shock more
   likely. >70% sepsis would be more likely.- resulted at 68%, so does not
   clarify picture
   - Urine grew Pseudomonas, continue on Ceftazidime 2gm q12h IV
   -          Antibiotics for sputum MSSA and urine Pseudomonas as above
   -          CVL placed [**2174-9-12**].
   -          Arterial line [**9-12**] to monitor BP
   -          CVP 23 on [**9-14**], UOP around 100 mL/hr
   -          Continue Ceftaz
   -          Continue Nafcillin
   -          D/c
d Flagyl as above
   -          Cultures re-sent, will f/u results
   -          Tylenol 650 q6 prn fever, UOP seems to have improved with
   decreased temp
   -          Keep CVPs in 20s with fluid as needed, monitor UOP
   #Metabolic Alkalosis- Likely [**3-5**] large volume diuresis; pH 7.41 this
   morning.
   -          aggressively give KCL, goal K > 4.5
   -          TTKG previously 12.7, consistent with renal losses of K+
   (not suggestive of GI loss) will consider work up for hyperadrenal
   state.
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
    Pt with severe cardiomyopathy and EF of only 10%.
   - Pt has been hypotensive and therefore not receiving his coreg or
   metoprolol. Metoprolol d/c
   -  Continue with coreg, consider increasing dose from 12.5 to 25 in
   next few days
   - Continue Digoxin
   - cards suggested starting heparin, will hold for now given recent
   oozing of PEG and possibility of procedures in near future.  Given 5%
   risk of event per year and limit expected pt lifespan, do not feel
   strongly on starting heparin
    -Holding Lasix given increased BUN/Cr
   #[**Name (NI) 4087**] Pt previously had high residuals, residuals overnight were <10
   cc.  Pt stooling.
   - CT consistent with ileus, now apparently resolved
   - will d/c lactulose as now stooling often
   - finished erythromycin
   - d/c Reglan
   - monitor PEG residuals.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- Recent increase in
   Cr concern for new injury, possibly combined with prerenal ARF.  Renal
   consult given concern for electrolye abnormalities and increasing Cr,
   decreased UOP.  Had been discussing need for dialysis.
   - Cr continues to decrease
   - UOP increased
   - Holding lasix
   - Renally dose meds
   - Continue to monitor Cr, BUN, UOP
   # Hypernatremia:
   -          Will increase free water flushes to 300 mL q 4 hrs.
   -          Monitor electrolytes
   -          Consider increasing free water flushes
   # Hypokalemia:
   -          Replete K+ aggressively, using PO preferentially over IV
   replacement
   -          Follow electrolytes
 ATRIAL FIBRILLATION (AFIB)
    - HR now in 100s likely [**3-5**] hypovolemia in addition to Afib. Will see
   if responds to fluids.
    -Cardiology consulted; transitioned from metoprolol to carvedilol
   - Continue carvedilol, consider increasing dose as above
   - Continue digoxin
   - No anti-coagulation for now given oozing from peg site previously and
   coagulopathy
   - Will consider adding back Coumadin in next few days
   #COAGULOPATHY - possible sources since the last coumadin was given on
   [**8-24**] include hepatic and nutritional.  Hepatic possible given poor CO
   and episodic hypotension, however would expect higher LFTs if cause was
   ischemia. Of note LFTs are no longer elevated but PTT/INR remain
   elevated. Nutrition possible since no Vit K in tube feeds but near
   normal alb. a source could be levaquin, as this effects coumadin
   metabolism. DIC unlikely since platelets are rising, fibrinogen high,
   and haptoglobin low.
   - Got DDAVP [**2174-9-12**] and 1unit FFP as well
   -Holding heparin
   - INR 1.4 today down from 2.6 on [**9-13**]
   - Vit K 10mg QD for 3 days last dose today ([**9-15**])
   ICU Care
   -Nutrition: NPO,  Nutren renal with 40g beneprotein @ 45mL/hour. Will
   change back if gets HD to remove protein.  Increased free water flushes
   as above.
   Glycemic Control:  Insulin SS, raised standing NPH to 12U q12H
   -Lines:  L PICC,  Left subclavian CVL [**2174-9-12**], Arterial line [**2174-9-12**]
   -Prophylaxis:
   DVT: Pneumoboots, Heparin SC
   Stress ulcer:  Famotidine
   VAP:
   -Communication:  Comments:  Family aware patient is very ill.
   -Code status: DNR (no CPR, no shocks). Will take pressors, intubation
   and HD.
   -Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-9-14**] 05:30 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2174-9-6**] 12:20 PM
   Arterial Line - [**2174-9-12**] 01:08 PM
   Multi Lumen - [**2174-9-12**] 04:39 PM
   Prophylaxis:
   DVT: SQ Heparin, Pneumoboots
   Stress ulcer:  Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2174-09-16 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2174-9-15**] 11:00 PM
   -D/c'd L PICC and sent tip for cx, will f/u
 FEVER - 102.9
C - [**2174-9-15**] 03:00 PM
   Increased free water flushes to 400 mL q 4 hrs for hypernatremia.
   Renal also recommended repleting K, changing drips to 1/2 NS (though
   this was deferred, as total volume low).
   FSBS consistently 160-190, increased NPH from 12 -> 15 in AM and PM.
   ID: consider bone marrow bx if family wants to aggressively pursue
   diagnosis
   15 beats NSVT at 600am.  Converted spontaneously.
   S: No chest pain and feels ok breathing with vent/trach.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2174-9-16**] 03:52 AM
   Nafcillin - [**2174-9-16**] 03:52 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2174-9-15**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2174-9-16**] 03:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-9-16**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 36.4
C (97.5
   HR: 109 (72 - 122) bpm
   BP: 100/70(79) {93/58(67) - 123/83(93)} mmHg
   RR: 25 (20 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 142.4 kg (admission): 164 kg
   Height: 74 Inch
    CVP: 361 (9 - 361)mmHg
   Total In:
                                                                  4,252 mL
                                                                  1,754 mL
   PO:
   TF:
                                                                  1,080 mL
                                                                    286 mL
   IVF:
                                                                  1,492 mL
                                                                    468 mL
   Blood products:
   Total out:
                                                                  4,300 mL
                                                                    920 mL
   Urine:
                                                                  3,850 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -48 mL
                                                                    834 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 600) mL
   Vt (Spontaneous): 519 (519 - 519) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.48/29/196/21/0
   Ve: 11 L/min
   PaO2 / FiO2: 490
   Physical Examination
   GEN: Obese man lying in bed. Trached.
   HEENT: Sclera anicteric. MMM. Trach tube.
   LUNGS: CTAB anteriorly
   HEART: Irreg irreg and tachycardic
   ABD: Obese. Soft. NT/ND
   GU: Significant scrotal edema.
   EXTREM: 1+ edema BL LE
   NEURO: Opens eyes to name. Answers questions by nodding yes or no.
   Labs / Radiology
   229 K/uL
   11.9 g/dL
   221 mg/dL
   1.0 mg/dL
   21 mEq/L
   2.9 mEq/L
   113 mg/dL
   120 mEq/L
   155 mEq/L
   37.0 %
   11.3 K/uL
        [image002.jpg]
                             [**2174-9-14**]  02:09 AM
                             [**2174-9-14**]  02:58 AM
                             [**2174-9-14**]  04:57 PM
                             [**2174-9-15**]  02:45 AM
                             [**2174-9-15**]  03:03 AM
                             [**2174-9-15**]  11:11 AM
                             [**2174-9-15**]  04:00 PM
                             [**2174-9-16**]  02:09 AM
                             [**2174-9-16**]  02:24 AM
                             [**2174-9-16**]  04:48 AM
   WBC
   10.3
   10.7
   11.3
   Hct
   35.3
   34.2
   37.0
   Plt
   [**Telephone/Fax (3) 4337**]
   Cr
   3.2
   1.9
   1.5
   1.5
   1.0
   TCO2
   20
   23
   23
   23
   22
   Glucose
   146
   173
   196
   192
   221
   Other labs: PT / PTT / INR:14.9/26.2/1.3, CK / CKMB /
   Troponin-T:922/3/0.13, ALT / AST:24/27, Alk Phos / T Bili:82/0.6,
   Amylase / Lipase:84/88, Differential-Neuts:77.0 %, Band:0.0 %,
   Lymph:14.3 %, Mono:7.9 %, Eos:0.5 %, Fibrinogen:932 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:3.1 g/dL, LDH:315 IU/L, Ca++:9.2 mg/dL,
   Mg++:3.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
    Pts failure likely multifactorial.  From an infectious standpoint,
   multi-lobar pneumonia is contributing in addition to CHF (EF 10%)
   - Continue atrovent nebs prn
   -[**9-8**] sputum, showed MSSA, therefore d/c vanc. Had added flagyl for
   concern of aspiration pna.  As per ID switched to clindamycin  450mg IV
   q6h for MSSA and anerobe coverage.  However, clinda sensitivities were
   not listed, called lab to add on clindamycin sensitivity, will be ready
   [**9-12**]. Switched from clinda to nafcillin ([**9-12**]).
   -daily CXR to monitor for aspiration PNA.
   - Pts latest ABG with sign of hyperventilation. [**Month (only) 60**] turn down rate
   and/or tidal volume if patient can tolerate.
    # SHOCK:  Likely septic shock as well as cardiac shock although do not
   have a good gauge of [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 4218**] as mixed venous O2 [**9-13**] was 68%. UOP
   has increased and hypotension has slowly been resolving over last 2
   days.  Pt does continue to spike fevers though.
   -         Pt continues to be febrile, has + sputum cultures,
   hypotension better at 100s/50s instead of 80s/30s.  CVP at 18.
   -        Urine grew Pseudomonas, continue on Ceftazidime 2gm q12h IV
   (started [**2174-9-10**])
   -          Antibiotics for sputum MSSA and urine Pseudomonas as above
   -          Cultures re-sent, will f/u results
   -          Tylenol 650 q6 prn fever, UOP seems to have improved with
   decreased temp
   -          Keep CVPs in 20s with fluid as needed, monitor UOP
   #Metabolic Alkalosis- Likely [**3-5**] large volume diuresis; pH 7.41 this
   morning.
   -          aggressively give KCL, goal K > 4.5
   -          TTKG previously 12.7, consistent with renal losses of K+
   (not suggestive of GI loss) will consider work up for hyperadrenal
   state.
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
    Pt with severe cardiomyopathy and EF of only 10%.
   - Pt has been hypotensive and therefore not receiving his coreg or
   metoprolol. Metoprolol d/c
   -  Continue with coreg, consider increasing dose from 12.5 to 25 in
   next few days
   - Continue Digoxin
   - cards suggested starting heparin, will hold for now given recent
   oozing of PEG and possibility of procedures in near future.  Given 5%
   risk of event per year and limit expected pt lifespan, do not feel
   strongly on starting heparin
    -Holding Lasix given increased BUN/Cr
   #[**Name (NI) 4087**] Pt previously had high residuals, residuals overnight were <10
   cc.  Pt stooling.
   - CT consistent with ileus, now apparently resolved
   - will d/c lactulose as now stooling often
   - finished erythromycin
   - d/c Reglan
   - monitor PEG residuals.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- Recent increase in
   Cr concern for new injury, possibly combined with prerenal ARF.  Renal
   consult given concern for electrolye abnormalities and increasing Cr,
   decreased UOP.  Had been discussing need for dialysis, however in the
   last few days UOP has increased and creatinine has gone down.
   - Cr continues to decrease
   - UOP increased
   - Holding lasix
   - Renally dose meds
   - Continue to monitor Cr, BUN, UOP
   # Hypernatremia: Most likely a result of insensible losses and not
   enough free water in TPN, however with increased
   -          Will increase free water flushes to 400 mL q 4 hrs.
   -          Monitor electrolytes
   -          Will change fluids to
 NS instead of NS.
   # Hypokalemia:
   -          Replete K+ aggressively, using PO preferentially over IV
   replacement
   -          Follow electrolytes
 ATRIAL FIBRILLATION (AFIB)
    - HR now in 100s likely [**3-5**] hypovolemia in addition to Afib. Will see
   if responds to fluids.
    -Cardiology consulted; transitioned from metoprolol to carvedilol
   - Continue carvedilol, consider increasing dose
   - Continue digoxin
   - No anti-coagulation for now given oozing from peg site previously and
   coagulopathy
   - Will consider adding back Coumadin in next few days
   #COAGULOPATHY - possible sources since the last coumadin was given on
   [**8-24**] include hepatic and nutritional.  Hepatic possible given poor CO
   and episodic hypotension, however would expect higher LFTs if cause was
   ischemia. Of note LFTs are no longer elevated but PTT/INR remain
   elevated. Nutrition possible since no Vit K in tube feeds but near
   normal alb. a source could be levaquin, as this effects coumadin
   metabolism. DIC unlikely since platelets are rising, fibrinogen high,
   and haptoglobin low.
   - Got DDAVP [**2174-9-12**] and 1unit FFP as well
   -Holding heparin
   - INR 1.4 today down from 2.6 on [**9-13**]
   - Vit K 10mg QD for 3 days last dose today ([**9-15**])
   ICU Care
   -Nutrition: NPO,  Nutren renal with 40g beneprotein @ 45mL/hour. Will
   change back if gets HD to remove protein.  Increased free water flushes
   as above.
   Glycemic Control:  Insulin SS, raised standing NPH to 12U q12H
   -Lines:  L PICC,  Left subclavian CVL [**2174-9-12**], Arterial line [**2174-9-12**]
   -Prophylaxis:
   DVT: Pneumoboots, Heparin SC
   Stress ulcer:  Famotidine
   VAP:
   -Communication:  Comments:  Family aware patient is very ill.
   -Code status: DNR (no CPR, no shocks). Will take pressors, intubation
   and HD.
   -Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-9-15**] 05:29 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2174-9-12**] 01:08 PM
   Multi Lumen - [**2174-9-12**] 04:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2174-09-19 10:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50 yo with severe dil CM, EF 10%, chronic respiratory failure with
   trach thought to be secondary to HF and multilobar PNA.  Was
   tachycardic with NSVT for long runs and HOTNsive during rounds
   yesterday, and received IVF boluses, and responded.
   24 Hour Events:
 PAN CULTURE - At [**2174-9-18**] 08:03 AM
   BC, from aline and central line, urine and sputum
 EKG - At [**2174-9-18**] 10:50 AM
 FEVER - 103.1
C - [**2174-9-18**] 11:02 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2174-9-18**] 08:10 PM
   Nafcillin - [**2174-9-18**] 10:02 PM
   Infusions:
   Fentanyl - 30 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Fentanyl - [**2174-9-18**] 11:03 AM
   Famotidine (Pepcid) - [**2174-9-18**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2174-9-19**] 03:52 AM
   Midazolam (Versed) - [**2174-9-19**] 09:38 AM
   Other medications:
   Regular Insulin SS
   Colace
   chlorhex
   ASA
   atrovent
   versed
   levoxyl
   pepcid
   carvedilol 25mg [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-9-19**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 39.2
C (102.6
   HR: 142 (74 - 142) bpm
   BP: 113/72(83) {82/46(56) - 126/87(97)} mmHg
   RR: 45 (16 - 45) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 142.4 kg (admission): 164 kg
   Height: 74 Inch
   CVP: 11 (7 - 22)mmHg
   Total In:
                                                                  4,964 mL
                                                                  1,384 mL
   PO:
   TF:
                                                                  1,080 mL
                                                                    434 mL
   IVF:
                                                                  1,754 mL
                                                                    410 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    630 mL
   Urine:
                                                                  1,650 mL
                                                                    625 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  3,264 mL
                                                                    754 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Sao2 < 90%
   PIP: 19 cmH2O
   Plateau: 14 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/31/181/19/-4
   Ve: 28.6 L/min
   PaO2 / FiO2: 453
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: No(t) Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: b/l)
   Abdominal: Soft, Non-tender, purulent drainage from around PEG site
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.5 g/dL
   296 K/uL
   202 mg/dL
   1.0 mg/dL
   19 mEq/L
   4.1 mEq/L
   79 mg/dL
   112 mEq/L
   143 mEq/L
   35.6 %
   20.3 K/uL
        [image002.jpg]
                             [**2174-9-17**]  08:05 PM
                             [**2174-9-18**]  02:00 AM
                             [**2174-9-18**]  02:27 AM
                             [**2174-9-18**]  03:00 AM
                             [**2174-9-18**]  07:28 PM
                             [**2174-9-18**]  08:02 PM
                             [**2174-9-18**]  10:33 PM
                             [**2174-9-19**]  01:50 AM
                             [**2174-9-19**]  02:18 AM
                             [**2174-9-19**]  05:19 AM
   WBC
   17.4
   20.3
   Hct
   35.9
   35.6
   Plt
   249
   296
   Cr
   1.0
   0.9
   1.0
   TCO2
   21
   21
   22
   21
   20
   16
   19
   Glucose
   155
   171
   202
   Other labs: PT / PTT / INR:14.7/28.2/1.3, CK / CKMB /
   Troponin-T:922/3/0.13, ALT / AST:25/35, Alk Phos / T Bili:139/0.6,
   Amylase / Lipase:84/88, Differential-Neuts:81.6 %, Band:0.0 %,
   Lymph:12.7 %, Mono:4.5 %, Eos:0.9 %, Fibrinogen:932 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:3.1 g/dL, LDH:425 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC:  Likely multifactorial due to PNA, CHF,
   [**Last Name (un) **]-[**Doctor Last Name **] respiration.  Having agitation and high respiratory
   rates.  Unlikely will be able to wean today.  Continue current vent
   settings.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF). Creatinine has
   improved.
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC:  On Coreg 25mg [**Hospital1 **].
   On Coumadin.
   Afib.  HR is high in 110-130 range.  On reasonable dose of coreg.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):
   Continued fevers, now spiking higher than before.  Will try empiric
   vanco and zosyn as he looks ill.
 HYPERNATREMIA (HIGH SODIUM): Na is much improved with free water.
 SHOCK, OTHER: Cardiogenic, has improved.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-9-18**] 06:49 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Comments: Increase in
   NPH
   Lines:
   Arterial Line - [**2174-9-12**] 01:08 PM
   Multi Lumen - [**2174-9-12**] 04:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill